2167-04-30 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2167-4-29**] 04:16 PM
 BRONCHOSCOPY - At [**2167-4-29**] 07:01 PM
   He was bonch-ed without incident. BAL revealed frank blood.
   Blood cx x2 grew gram positive cocci
   Patient with increasing respiratory distress around 1am. O2 sats 70's
   on non rebreather. He had increasing work of breathing using accessory
   muscles of breathing and no improvement with nebs. He was emergently
   intubated by anesthesia.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2167-4-29**] 08:00 PM
   Azithromycin - [**2167-4-29**] 08:30 PM
   Caspofungin - [**2167-4-29**] 09:00 PM
   Bactrim (SMX/TMP) - [**2167-4-29**] 10:30 PM
   Gancyclovir - [**2167-4-30**] 12:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-30**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.3
   HR: 85 (85 - 113) bpm
   BP: 141/76(93) {108/66(80) - 158/86(104)} mmHg
   RR: 21 (21 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
           Total In:
                                                                  2,347 mL
                                                                    968 mL
   PO:
           TF:
   IVF:
                                                                  1,298 mL
                                                                    195 mL
   Blood products:
                                                                    600 mL
                                                                    139 mL
   Total out:
                                                                  1,750 mL
                                                                  2,240 mL
   Urine:
                                                                    950 mL
                                                                  1,740 mL
   NG:
   Stool:
                                                                    800 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                    597 mL
                                                                 -1,272 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated, No Spon Resp
   PIP: 16 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.46/39/146/24/4
   Ve: 15.6 L/min
   PaO2 / FiO2: 365
   Physical Examination
   General: intubated. Sedated. Irregular breathing, using abdomen
   HEENT: NC, AT, PERRL, no OP lesions
   Neck: supple, no JVD or carotid bruits appreciated
   Pulmonary:  anteriorly with some scattered rhonchi
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: + BS, soft, NT, ND, no rebound or guarding,
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Lymphatics: No cervical, supraclavicular, axillary or inguinal
   lymphadenopathy noted.
   Skin: diffuse skin darkening
   Neurologic: sedated
   Labs / Radiology
   CT Chest:
   1.  Likely pulmonary edema, not necessarily cardiogenic, including drug
    and
   transfusion reactions, although heart size is increasing.  If patient i
   s
   subject to fever supression, viral pneumonia and pneumocystis should [**Doctor Last Name **]
   so be
   considered.
   2.  Extensive osseous myeloma including mild compression of several tho
   racic
   vertebral bodies is unchanged since [**2167-2-4**].
   48 K/uL
   6.9 g/dL
   150 mg/dL
   2.9 mg/dL
   24 mEq/L
   3.6 mEq/L
   107 mg/dL
   101 mEq/L
   140 mEq/L
   19.3 %
   3.9 K/uL
        [image002.jpg]
                             [**2167-4-25**]  12:01 AM
                             [**2167-4-25**]  05:43 AM
                             [**2167-4-25**]  02:43 PM
                             [**2167-4-25**]  02:44 PM
                             [**2167-4-25**]  04:18 PM
                             [**2167-4-29**]  05:09 PM
                             [**2167-4-30**]  12:55 AM
                             [**2167-4-30**]  01:53 AM
                             [**2167-4-30**]  03:51 AM
                             [**2167-4-30**]  06:25 AM
   WBC
   4.1
   3.2
   3.8
   5.0
   3.6
   3.9
   Hct
   25.4
   27.5
   28.1
   28.1
   21.9
   20.8
   19.3
   Plt
   93
   54
   43
   30
   14
   58
   48
   Cr
   2.1
   1.9
   3.0
   2.9
   TCO2
   27
   29
   Glucose
   [**Telephone/Fax (3) 1841**]50
   Other labs: PT / PTT / INR:12.7/27.9/1.1, ALT / AST:125/88, Alk Phos /
   T Bili:143/7.6, Differential-Neuts:95.0 %, Band:1.0 %, Lymph:1.0 %,
   Mono:2.0 %, Eos:0.0 %, Fibrinogen:291 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.7 g/dL, LDH:1146 IU/L, Ca++:8.3 mg/dL, Mg++:2.5 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
   54 yo male with history of recurrent multiple myeloma now s/p cord
   blood transplant with complicated hospital course was admitted with
   hypoxia and bacteremia, with respiratory failure now intubated and
   vented.
   1. Hypoxia
   Etiology of patient's hypoxia is likely multifactorial but has several
   possible causes. Differential includes infectious etiology including
   [**Hospital 1836**] [**Name10 (NameIs) 1837**] pneumonia, atypical pneumonia, or viral
   pneumonia/ pneumonitis such as influenza or CMV. aspiration event
   unlikely. Additional infectious etiologies include opportunistic
   infections such as PCP given patient's immunocompromised state from
   malignancy and immunosuppressive meds (steroids, cyclosporine, and
   mycophenylate mofetil) or acute lung injury secondary to gram positive
   bacteremia. Pulmonary edema secondary to CHF or secondary to multiple
   transfusions is another possibility, although asymmetric infiltrates
   would be atypical. Likewise, symptoms appear gradual in onset and not
   related to a specific transfusion or receipt of blood product. Pt
   likely has diffuse alveolar hemorrhage given frank blood in BAL.
   Etiologies in him include, thrombocytopenia, infection, cardiac causes.
   Most of his meds are not known to commonly cause respiratory side
   effects, although cyclosporine induced lung distress is one
   possibility. Inflammatory lung disease such as sarcoidosis, Wegener
   Goodpasture
s, or Lupus less likely given patient on steroids. Graft
   versus host disease does not generally cause hypoxic respiratory
   distress as this patient has.
   Patient is s/p bronchoscopy [**2167-4-29**]. Patient was in acute respiratory
   distress overnight for which was intubated, now on AC
   - Repeat bronchospy today to examine for continued bleed and/or trauma
   from intervenions given progressive respistorary failure
   - f/u bronchoscopy for gram stain, aerobic and anaerobic culture, PCP
   smear, DFA for viral panel, viral culture, Cryptococcal Ag, and
   cytology for CMV
   - continue broad spectrum antibiotics presumptively for treatment of
   hospital acquired pneumonia, PCP, [**Name10 (NameIs) **] atypical pneumonia
   --> vancomycin to cover MRSA
 dose by level
   --> cefepime to cover pseudomonas
   --> azithromycin to cover atypicals
   --> bactrim  and methylprednisoneto cover PCP [**Last Name (NamePattern4) **] 400mg IV q8h
   --> consider adding antifungals if hypoxia persists
   - titrate antibiotics pending bronchoscopy results
   - f/u serum cryptoAg and urine legionella
   - f/u serum for toxo serology
   - for evaluation of CHF, check BNP and echo
   - transfuse platelets for plt > 50
   - place arterial line for arterial access
   - continue standing ipratropium and albuterol nebs standing
   - optimize ventilator settings as tolerated
   2. Bacteremia
   Patient with gram positive cocci in pairs and chains on blood culture.
   Potential pathogens include strep pneumo, enterococcus, or possibly
   oral flora such as peptostreptococcus or strep viridans. Patient
   immunocompramised for GVHD
   - will continue vancomycin for now
   - If patient becomes hemodynamically unstable in any way would broaden
   coverage for VRE changing vancomycin to linezolid
   - f/u echo for valvular vegetations
   - will keep hickman in place for now; if patient becomes
   hemodynamically unstable, will need to pull lines and gain central
   access
   - f/u with BMT if immunospressive agents can be weaned in setting of
   infection.
   3. Acute Renal Failure
   Patient with baseline Cr 1.6-1.8 and now rising to 2.9. Etiology is
   likely multifactorial, including tacolimus and cyclosporine toxicity
   and dehydration.
   - renally dose meds, avoid further nephrotoxic agents
   - f/u FeNa
   - reconsult renal given acute change.
   4. Graft versus Host Disease: Patient with persistent GvHD with overall
   rising bilirubin.
   - continue ursodiol
   - continue cyclosporine, etanercept, mycophenolate mofetil, and
   methylprednisolone
   - check cyclosporine level in the AM
   - appreciate BMT recs
 will as about weaning immunosuppression.
   5. CMV Viremia
   Patient with history of CMV viremia.
   - continue ganciclovir
   - follow-up CMV level
   - continue enterocort for gut inflammation
   6. Multiple myeloma s/p Cord Tranplant:
   Continue management per BMT team.
   - monitor cell counts
   - continue cellcept, steroids, and cyclosporine
   - appreciate BMT recs
   - check daily cyclosporine levels
   - continue caspofungin for fungal prophylaxis; will follow-up with BMT
   regarding the need to continue this medication
   7. Hypertension:
   Normotensive currently.
   - will continue anti-HTN meds for now with labetalol and amlodipine
   - will increase holding parameters given patient's risk for hypotension
   secondary to sepsis in light of positive blood cultures
   8. Duodenitis
   Duodenitis seen on EGD.
   - continue PPI
   9. Diabetes
   Hyperglycemic with steroids
   - Continue humalog insulin sliding scale with insulin in TPN
   10. Chronic Pain
   Stable
   - continue MS Contin with morphine for prn pain
   ICU Care
   Nutrition:  Optimize all PO meds while intubated
   TPN w/ Lipids - [**2167-4-29**] 09:00 PM 83 mL/hour
   Glycemic Control:  TPN with insulin
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Prophylaxis:
   DVT: (low platelets)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-04-30 09:02:00 Physician Attending Progress Note
Chief Complaint: respiratory failure in an immunocompromised host
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tolerated bronchoscopy without incident.
   Bactrim begun at treatment doses.
   However, hypoxemia worsened at about 1am --> low 80s on NRB with
   paradox --> intubated.  Post-intubation 7.34 / 48 / 79.  Hct 20.8.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2167-4-29**] 08:00 PM
   Azithromycin - [**2167-4-29**] 08:30 PM
   Caspofungin - [**2167-4-29**] 09:00 PM
   Bactrim (SMX/TMP) - [**2167-4-29**] 10:30 PM
   Gancyclovir - [**2167-4-30**] 12:00 AM
   Vancomycin - [**2167-4-30**] 08:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Other medications: ursodiol, sucralfate, vitamins, enterocort, PPI,
   caspo, Solumedrol 40 q12, MS Contin, ganciclovir, etanercept, MMF,
   vanco, cefepime, cyclosporine, azithro, Bactrim
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-30**] 08:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 87 (85 - 113) bpm
   BP: 133/72(86) {108/66(80) - 158/86(104)} mmHg
   RR: 22 (21 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
           Total In:
                                                                  2,347 mL
                                                                  1,485 mL
   PO:
           TF:
   IVF:
                                                                  1,298 mL
                                                                    423 mL
   Blood products:
                                                                    600 mL
                                                                    277 mL
   Total out:
                                                                  1,750 mL
                                                                  2,420 mL
   Urine:
                                                                    950 mL
                                                                  1,920 mL
   NG:
   Stool:
                                                                    800 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                    597 mL
                                                                   -935 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated, No Spon Resp
   Plateau: 24 cmH2O
   SpO2: 96%
   ABG: 7.46/39/146/24/4
   Ve: 15.6 L/min
   PaO2 / FiO2: 365
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Sedated, Tone: Not assessed
   Labs / Radiology
   6.9 g/dL
   48 K/uL
   150 mg/dL
   2.9 mg/dL
   24 mEq/L
   3.6 mEq/L
   107 mg/dL
   101 mEq/L
   140 mEq/L
   19.3 %
   3.9 K/uL
        [image002.jpg]
                             [**2167-4-25**]  12:01 AM
                             [**2167-4-25**]  05:43 AM
                             [**2167-4-25**]  02:43 PM
                             [**2167-4-25**]  02:44 PM
                             [**2167-4-25**]  04:18 PM
                             [**2167-4-29**]  05:09 PM
                             [**2167-4-30**]  12:55 AM
                             [**2167-4-30**]  01:53 AM
                             [**2167-4-30**]  03:51 AM
                             [**2167-4-30**]  06:25 AM
   WBC
   4.1
   3.2
   3.8
   5.0
   3.6
   3.9
   Hct
   25.4
   27.5
   28.1
   28.1
   21.9
   20.8
   19.3
   Plt
   93
   54
   43
   30
   14
   58
   48
   Cr
   2.1
   1.9
   3.0
   2.9
   TCO2
   27
   29
   Glucose
   [**Telephone/Fax (3) 1841**]50
   Other labs: PT / PTT / INR:12.7/27.9/1.1, ALT / AST:125/88, Alk Phos /
   T Bili:143/7.6, Differential-Neuts:95.0 %, Band:1.0 %, Lymph:1.0 %,
   Mono:2.0 %, Eos:0.0 %, Fibrinogen:291 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.7 g/dL, LDH:1146 IU/L, Ca++:8.3 mg/dL, Mg++:2.5 mg/dL,
   PO4:4.1 mg/dL
   Fluid analysis / Other labs: BAL: 63% "other" cells
   Cytology pending
   Imaging: CT as reviewed in admission note.
   CXR: now intubated. Increased diffuse pulmonary parenchymal opacities,
   right substantially greater than left.
   Microbiology: BCx: [**3-7**] GPC in pairs and chains
   Assessment and Plan
   54 y/o man with
   Respiratory Failure with diffuse pulmonary parenchymal opacities in an
   immunocompromised host
   -          Differential diagnosis here remains quite broad.  [**Doctor Last Name **] from
   bacteremia is probably the most likely, which may be complicated by
   DAH.  DAH here may be related to infection or may be an independent
   process (although immunosuppression makes this somewhat less likely).
   PCP, [**Name10 (NameIs) 1845**], and CMV are certainly possible, as is CHF and other
   opportunistic infections.  Immunologenic phenomena (Goodpasture
   etc.) are on the list, but seem quite unlikely given his existing
   immunosuppression.
   -          Antibiotics as directed by ID
   o         vanco, cefepime, azithro for possible PNA
   o         Bactrim for possible PCP
   [**Name Initial (PRE) **]         Ganciclovir for possible PCP
   [**Name Initial (PRE) **]          Echo
   -          Repeat bronchoscopy today to determine if bleeding is from
   an isolated segment or appears more diffuse.
   -          Ventilate with low tidal volume strategy with goal Vt of
   6cc/kg PBW
   -          Art line
   Bacteremia (GPC in pairs and chains)
   -          Strep pneumo, strep viridans (given prior Capno infxn), and
   enterococcus in DDx
   -          leave tunneled line in for now, but take out if
   hemodynamically unstable (discussed with ID)
   -          discuss with BMT and ID regarding decreasing
   immunosuppression
   Acute Renal Failure
   -          FeNa
   -          examine sediment
   -          if any evidence of active sediment, consider serologic
   studies
   -          renal doses for all meds; follow cyclosporine levels
   Myeloma s/p transplant
   Graft vs. Host disease
   -          discuss with BMT and ID regarding decreasing
   immunosuppression
   Thrombocytopenia
   -          keep > 50 for a day or two given possibility of DAH
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-4-29**] 09:00 PM 83 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Prophylaxis:
   DVT: Boots(No heparin due to thrombocytopenia)
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  45 min
   Patient is critically ill

2167-05-01 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2167-4-30**] 10:09 AM
 BRONCHOSCOPY - At [**2167-4-30**] 01:15 PM
 ARTERIAL LINE - START [**2167-4-30**] 02:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2167-4-30**] 08:00 AM
   Bactrim (SMX/TMP) - [**2167-4-30**] 03:00 PM
   Cefipime - [**2167-4-30**] 05:00 PM
   Caspofungin - [**2167-4-30**] 08:22 PM
   Gancyclovir - [**2167-4-30**] 11:13 PM
   Azithromycin - [**2167-4-30**] 11:14 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Carafate (Sucralfate) - [**2167-4-30**] 11:00 AM
   Lansoprazole (Prevacid) - [**2167-4-30**] 11:00 AM
   Midazolam (Versed) - [**2167-4-30**] 01:15 PM
   Fentanyl - [**2167-4-30**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-5-1**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.7
   HR: 78 (78 - 87) bpm
   BP: 166/79(109) {153/72(31) - 175/83(361)} mmHg
   RR: 16 (16 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
           Total In:
                                                                  4,878 mL
                                                                  1,301 mL
   PO:
           TF:
   IVF:
                                                                  2,000 mL
                                                                     63 mL
   Blood products:
                                                                    631 mL
                                                                    688 mL
   Total out:
                                                                  4,800 mL
                                                                  1,025 mL
   Urine:
                                                                  4,300 mL
                                                                  1,025 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                     78 mL
                                                                    276 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 14
   PIP: 27 cmH2O
   SpO2: 95%
   ABG: 7.46/40/71//4
   Ve: 12.3 L/min
   PaO2 / FiO2: 142
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   121 K/uL
   7.0 g/dL
   150 mg/dL
   2.9 mg/dL
   24 mEq/L
   3.6 mEq/L
   107 mg/dL
   101 mEq/L
   140 mEq/L
   19.3 %
   3.3 K/uL
        [image002.jpg]
                             [**2167-4-30**]  12:55 AM
                             [**2167-4-30**]  01:53 AM
                             [**2167-4-30**]  03:51 AM
                             [**2167-4-30**]  06:25 AM
                             [**2167-4-30**]  09:30 AM
                             [**2167-4-30**]  02:45 PM
                             [**2167-4-30**]  05:23 PM
                             [**2167-4-30**]  10:54 PM
                             [**2167-5-1**]  03:45 AM
                             [**2167-5-1**]  06:13 AM
   WBC
   3.6
   3.9
   3.9
   3.3
   Hct
   20.8
   19.3
   21.8
   20.0
   19.3
   Plt
   58
   48
   82
   40
   121
   Cr
   2.9
   TCO2
   27
   29
   29
   29
   Glucose
   150
   Other labs: PT / PTT / INR:12.7/27.9/1.1, ALT / AST:125/88, Alk Phos /
   T Bili:143/7.6, Differential-Neuts:95.0 %, Band:1.0 %, Lymph:1.0 %,
   Mono:2.0 %, Eos:0.0 %, Fibrinogen:291 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.7 g/dL, LDH:1146 IU/L, Ca++:8.3 mg/dL, Mg++:2.5 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
   54 yo male with history of recurrent multiple myeloma now s/p cord
   blood transplant with complicated hospital course was admitted with
   hypoxia and bacteremia, with respiratory failure now intubated and
   vented.
   1. Hypoxia
   Etiology of patient's hypoxia is likely multifactorial but has several
   possible causes. Differential includes infectious etiology including
   [**Hospital 1836**] [**Name10 (NameIs) 1837**] pneumonia, atypical pneumonia, or viral
   pneumonia/ pneumonitis such as influenza or CMV. aspiration event
   unlikely. Additional infectious etiologies include opportunistic
   infections such as PCP given patient's immunocompromised state from
   malignancy and immunosuppressive meds (steroids, cyclosporine, and
   mycophenylate mofetil) or acute lung injury secondary to gram positive
   bacteremia. Pulmonary edema secondary to CHF or secondary to multiple
   transfusions is another possibility, although asymmetric infiltrates
   would be atypical. Likewise, symptoms appear gradual in onset and not
   related to a specific transfusion or receipt of blood product. Pt
   likely has diffuse alveolar hemorrhage given frank blood in BAL.
   Etiologies in him include, thrombocytopenia, infection, cardiac causes.
   Most of his meds are not known to commonly cause respiratory side
   effects, although cyclosporine induced lung distress is one
   possibility. Inflammatory lung disease such as sarcoidosis, Wegener
   Goodpasture
s, or Lupus less likely given patient on steroids. Graft
   versus host disease does not generally cause hypoxic respiratory
   distress as this patient has.
   Patient is s/p bronchoscopy [**2167-4-29**]. Patient was in acute respiratory
   distress overnight for which was intubated, now on AC
   - Repeat bronchospy today to examine for continued bleed and/or trauma
   from intervenions given progressive respistorary failure
   - f/u bronchoscopy for gram stain, aerobic and anaerobic culture, PCP
   smear, DFA for viral panel, viral culture, Cryptococcal Ag, and
   cytology for CMV
   - continue broad spectrum antibiotics presumptively for treatment of
   hospital acquired pneumonia, PCP, [**Name10 (NameIs) **] atypical pneumonia
   --> vancomycin to cover MRSA
 dose by level
   --> cefepime to cover pseudomonas
   --> azithromycin to cover atypicals
   --> bactrim  and methylprednisoneto cover PCP [**Last Name (NamePattern4) **] 400mg IV q8h
   --> consider adding antifungals if hypoxia persists
   - titrate antibiotics pending bronchoscopy results
   - f/u serum cryptoAg and urine legionella
   - f/u serum for toxo serology
   - for evaluation of CHF, check BNP and echo
   - transfuse platelets for plt > 50
   - place arterial line for arterial access
   - continue standing ipratropium and albuterol nebs standing
   - optimize ventilator settings as tolerated
   2. Bacteremia
   Patient with gram positive cocci in pairs and chains on blood culture.
   Potential pathogens include strep pneumo, enterococcus, or possibly
   oral flora such as peptostreptococcus or strep viridans. Patient
   immunocompramised for GVHD
   - will continue vancomycin for now
   - If patient becomes hemodynamically unstable in any way would broaden
   coverage for VRE changing vancomycin to linezolid
   - f/u echo for valvular vegetations
   - will keep hickman in place for now; if patient becomes
   hemodynamically unstable, will need to pull lines and gain central
   access
   - f/u with BMT if immunospressive agents can be weaned in setting of
   infection.
   3. Acute Renal Failure
   Patient with baseline Cr 1.6-1.8 and now rising to 2.9. Etiology is
   likely multifactorial, including tacolimus and cyclosporine toxicity
   and dehydration.
   - renally dose meds, avoid further nephrotoxic agents
   - f/u FeNa
   - reconsult renal given acute change.
   4. Graft versus Host Disease: Patient with persistent GvHD with overall
   rising bilirubin.
   - continue ursodiol
   - continue cyclosporine, etanercept, mycophenolate mofetil, and
   methylprednisolone
   - check cyclosporine level in the AM
   - appreciate BMT recs
 will as about weaning immunosuppression.
   5. CMV Viremia
   Patient with history of CMV viremia.
   - continue ganciclovir
   - follow-up CMV level
   - continue enterocort for gut inflammation
   6. Multiple myeloma s/p Cord Tranplant:
   Continue management per BMT team.
   - monitor cell counts
   - continue cellcept, steroids, and cyclosporine
   - appreciate BMT recs
   - check daily cyclosporine levels
   - continue caspofungin for fungal prophylaxis; will follow-up with BMT
   regarding the need to continue this medication
   7. Hypertension:
   Normotensive currently.
   - will continue anti-HTN meds for now with labetalol and amlodipine
   - will increase holding parameters given patient's risk for hypotension
   secondary to sepsis in light of positive blood cultures
   8. Duodenitis
   Duodenitis seen on EGD.
   - continue PPI
   9. Diabetes
   Hyperglycemic with steroids
   - Continue humalog insulin sliding scale with insulin in TPN
   10. Chronic Pain
   Stable
   - continue MS Contin with morphine for prn pain
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-4-30**] 08:29 PM 83 mL/hour
   Glycemic Control:  sq insulin
 drip
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: lansoprazole
   VAP:  chlorhex, hob
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-05-02 12:19:00 Physician Attending Progress Note
Chief Complaint: resp distress
   24 Hour Events:
   Paradoxial breathing, improved with increased PEEP
   OGT with persistent but minimal blood
   Hypertension
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2167-4-30**] 03:00 PM
   Vancomycin - [**2167-5-1**] 08:00 AM
   Cefipime - [**2167-5-1**] 04:00 PM
   Caspofungin - [**2167-5-1**] 07:30 PM
   Azithromycin - [**2167-5-1**] 08:30 PM
   Gancyclovir - [**2167-5-1**] 11:45 PM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-5-2**] 09:00 AM
   Other medications:
   amlodipine, SSRI, Vitd, MMF, Solumedrol, CSA
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: Hypertension
   Flowsheet Data as of  [**2167-5-2**] 12:19 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.2
   HR: 75 (69 - 84) bpm
   BP: 182/87(121) {137/67(90) - 199/91(129)} mmHg
   RR: 20 (15 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
           Total In:
                                                                  4,523 mL
                                                                  1,751 mL
   PO:
           TF:
   IVF:
                                                                  1,543 mL
                                                                    462 mL
   Blood products:
                                                                    688 mL
                                                                    276 mL
   Total out:
                                                                  3,010 mL
                                                                  1,650 mL
   Urine:
                                                                  3,010 mL
                                                                  1,650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,513 mL
                                                                    101 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 560) mL
   Vt (Spontaneous): 958 (958 - 958) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 11
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.43/45/101/26/4
   Ve: 12.5 L/min
   PaO2 / FiO2: 202
   Physical Examination
   Chronically ill male lying in bed with intermittent paradox breathing
   on ventilator
   CV: RR
   Chest: diffuse end exp wheezes
   Abd: obese with occ forced exhalation with sig abdominal rounding
   Ext: chronic scarring
   Neuro: not responsive to verbal, min response to tactile stim
   Labs / Radiology
   9.2 g/dL
   32 K/uL
   185 mg/dL
   3.2 mg/dL
   26 mEq/L
   4.5 mEq/L
   110 mg/dL
   105 mEq/L
   143 mEq/L
   24.9 %
   3.3 K/uL
        [image002.jpg]
                             [**2167-5-1**]  06:00 AM
                             [**2167-5-1**]  06:13 AM
                             [**2167-5-1**]  07:39 AM
                             [**2167-5-1**]  12:20 PM
                             [**2167-5-1**]  02:32 PM
                             [**2167-5-1**]  09:00 PM
                             [**2167-5-1**]  09:17 PM
                             [**2167-5-2**]  01:14 AM
                             [**2167-5-2**]  04:30 AM
                             [**2167-5-2**]  10:37 AM
   WBC
   1.9
   3.9
   3.7
   3.5
   3.3
   Hct
   45.9
   22.4
   22.8
   22.2
   24.9
   Plt
   58
   95
   71
   61
   32
   Cr
   2.9
   3.2
   TCO2
   29
   28
   30
   31
   Glucose
   186
   185
   Other labs: PT / PTT / INR:12.0/24.6/1.0, ALT / AST:125/82, Alk Phos /
   T Bili:186/6.7, Differential-Neuts:95.0 %, Band:2.0 %, Lymph:2.0 %,
   Mono:1.0 %, Eos:0.0 %, Fibrinogen:291 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.7 g/dL, LDH:1146 IU/L, Ca++:8.5 mg/dL, Mg++:2.7 mg/dL,
   PO4:3.8 mg/dL
   Microbiology: CMV [**4-29**] 1000
   Cryto neg
   Toxo neg
   3.26 bl culture group B strep
   BAL group b strep
   PCP neg
   Assessment and Plan
   54 yr old s/p stem cell Tx with complicatec course tx to MICU for
   hypoxemic resp failure
   Respiratory Failure: Multifactorial with
   -          Streptococcal (Group B) pneumonia with bacteremia,
   developed/ developing obliterative bronchiolitis, .
   -          some alveolar hemorrhage complicating his other issues
   -          Immunologenic phenomena (Goodpasture
s, etc.) are on the
   list, but seem quite unlikely given his existing immunosuppression.
   -          Continue vent support with efforts to converst over to PSV
   o         vanco, cefepime, azithro for possible PNA
   o         D/C Bactrim (PCP DFA negative) and convert to prophlyactic
   dosing
   o         Ganciclovir for possible CMV
   Bacteremia (Beta Strep)
   -          On adequate antibacterial coverage
   -          Continue to collaborate with BMT and ID regarding
   immunosuppression
 very challenging give his GVHD
   Acute Renal Failure
   -          Most likely ATN. Renally dose all meds, decraseing bactrim
   may help.
   Myeloma s/p transplant
   Graft vs. Host disease
   -          Continue to collaborate with BMT and ID regarding
   immunosuppression
 very challenging give his GVHD
   Thrombocytopenia
   -          keep > 50 for a day or two given possibility of DAH
   Anemia
          Transfuse as needed
   ICU care
          Boots, PPI (no heparin given platelets).  Try to begin tube
   feeds, although may not tolerate given prior bowel issues.
   He remains critically ill.  Total time: 50 minutes
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-5-1**] 06:25 PM 83 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Prophylaxis:
   DVT: none able to to low plts
   Stress ulcer: famotidine
   VAP: chlor hex HOB elevate
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50, critically ill

2167-05-03 07:15:00 Physician Resident Progress Note
Chief Complaint:
   54M h/o recurrent multiple myeloma s/p cord blood transplant admitted
   with hypoxic respiratory failure, bacteremia, intubated, on ganciclovir
   for CMV viremia, caspofungin for fungal PPx,
   cefepime/azithromycin/vancomycin for group B strep in BAL/bacteremia.
   24 Hour Events:
   - Renal recs: SPEP/UPEP ordered
   - Hypertensive: Hydralazine increased to 20mg Q6h
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2167-4-30**] 03:00 PM
   Vancomycin - [**2167-5-1**] 08:00 AM
   Cefipime - [**2167-5-2**] 04:26 PM
   Azithromycin - [**2167-5-2**] 08:00 PM
   Caspofungin - [**2167-5-2**] 09:00 PM
   Gancyclovir - [**2167-5-3**] 12:15 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-5-2**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-5-3**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 70 (68 - 78) bpm
   BP: 178/92(123) {146/76(101) - 199/97(134)} mmHg
   RR: 19 (16 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  4,168 mL
                                                                    872 mL
   PO:
             TF:
   IVF:
                                                                  1,698 mL
                                                                    316 mL
   Blood products:
                                                                    568 mL
   Total out:
                                                                  3,650 mL
                                                                  1,020 mL
   Urine:
                                                                  3,650 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    518 mL
                                                                   -148 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 560) mL
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   SpO2: 99%
   ABG: 7.39/48/112/26/3
   Ve: 9.7 L/min
   PaO2 / FiO2: 280
   Physical Examination
   Labs / Radiology
   26 K/uL
   9.0 g/dL
   210 mg/dL
   3.1 mg/dL
   26 mEq/L
   5.4 mEq/L
   119 mg/dL
   110 mEq/L
   147 mEq/L
   25.1 %
   3.0 K/uL
        [image002.jpg]
                             [**2167-5-1**]  02:32 PM
                             [**2167-5-1**]  09:00 PM
                             [**2167-5-1**]  09:17 PM
                             [**2167-5-2**]  01:14 AM
                             [**2167-5-2**]  04:30 AM
                             [**2167-5-2**]  10:37 AM
                             [**2167-5-2**]  04:10 PM
                             [**2167-5-2**]  04:29 PM
                             [**2167-5-3**]  04:00 AM
                             [**2167-5-3**]  04:17 AM
   WBC
   3.5
   3.3
   3.3
   3.0
   Hct
   22.2
   24.9
   23.8
   25.1
   Plt
   61
   32
   56
   26
   Cr
   3.2
   3.1
   TCO2
   28
   30
   31
   28
   30
   Glucose
   185
   210
   Other labs: PT / PTT / INR:12.3/24.7/1.0, ALT / AST:176/107, Alk Phos /
   T Bili:215/10.9, Differential-Neuts:87.0 %, Band:3.0 %, Lymph:5.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:291 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.8 g/dL, LDH:1117 IU/L, Ca++:8.9 mg/dL, Mg++:2.6 mg/dL,
   PO4:3.3 mg/dL
   Imaging: [**5-3**] CXR pending official read
   Microbiology: [**4-29**] Blood cx: Group B Beta strep pansensitive
   [**5-3**] CMV pending
   [**5-1**] cryptococcal antigen negative
   [**4-30**] toxoplasma negative
   [**2087-4-29**]: Blood cx pending
   [**4-29**] BAL: Fungal cx pending, OP flora absent, ~1000/ml beta strep
   Assessment and Plan
   54M h/o recurrent multiple myeloma s/p cord blood transplant admitted
   with hypoxic respiratory failure, bacteremia, intubated, on ganciclovir
   for CMV viremia, caspofungin for fungal PPx,
   cefepime/azithromycin/vancomycin for group B strep in BAL/bacteremia.
   Hypoxia: Multiple etiologies:  Infection (Most likely Bacterial: strep
   in blood and bal), Diffuse alveolar hemorrhage, GVHD (migrated to the
   lung) w/ obliterative bronchiolitis. PCP ruled out.
   Will treat possible etiologies as outlined below.
   - For [**Last Name (LF) **], [**First Name3 (LF) 178**] maintain settings as pt failed PSV trial this AM, did
   not maintain volumes and used abdominal breathing, will lower FiO2 and
   try weaning later in day.
   - DAH: transfusion goals: platelets > 50, HCT > 20, or if HCT drops by
   > 3.
   - GVHD: discuss balance of infection + possible GVHD in lungs w/ BMT.
   Will work on balance of immunosuppression and infection, patient on
   methylprednisone
   - Pneumonia / Bacteremia: possible that bacteria in blood seeded
   lungs-> per lab, same organism: cont vancomycin, cefepime, azithro,
   gancyclovir.
   - cont nebs
   - f/u culture data - sensitivities
   - f/u ID recs
 input appreciated.
   ID: Bacteremia: group B strep in both blood and from BAL. Serveillence
   cultures negative to date. TTE neg for veg, however poor study.  Will
   defer TEE given bleeding risk, platelets.  Will reconsider in future.
   Patient ruled out for PCP
   [**Name Initial (PRE) **] continue [**Name9 (PRE) 1886**] and azithromycin (day 1: [**4-29**]) day 4
   - Dose Vanco by level, will check level in AM
   - CMV: viral loads [**Last Name (LF) 1881**], [**First Name3 (LF) 178**] cont gancyclovir, will recheck next
   weeek
   - continue enterocort for gut inflammation
   - Fungal PPx: Cont caspofungin
   - Patient on steroids, should be in PCP prophylaxis with dapsone (given
   renal failure, not bactrim), pending G6PD level
   - ID recs appreciated
   Cardiovascular: Hypertension:  Patient hypertensive since yesterday to
   the 180s, already on amlodipine and labetolol. Cant do ace because of
   renal failure
   - amlodipine 10mg daily
   - labetolol 400 TID
   - started hydralazine 10mg iv q6, still high, increased to 20 mg IV
   ARF: Creat continues to escalate.  Unclear [**Name2 (NI) 1882**], but considering
   Meds vs ATN (muddy brown casts).
   - renal recs appreciated: will send SPEP and UPEP, 24hour urine
   protein, minimize cyclosporine
   - renally dose meds
   GVHD: Liver involvement currently, history of skin involvement
   considering obliterative bronchiolitis
   - Cont ursodiol
   - Cont MM.
   - continue solumedrol to 30 mg [**Hospital1 **], cyclosporine 75 mg [**Hospital1 **].
   - Check cyclosporine level (8pm level will be true trough, last nights
   dose given 11pm) at 8pm and tomorrow AM.
   Multiple myeloma s/p Cord Transplant: Continue management per BMT team.
   - monitor cell counts
   - continue cellcept, steroids, and cyclosporine
   - appreciate BMT recs
   - check daily cyclosporine levels
   - continue caspofungin for fungal prophylaxis; will follow-up with BMT
   regarding the need to continue this medication
   Duodenitis: Duodenitis seen on EGD.
   - continue PPI
   Diabetes: Hyperglycemic with steroids
   - Continue humalog insulin sliding scale with insulin in TPN
   Chronic Pain: Will hold MS Contin with morphine for prn pain while
   sedated on fentanyl.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-5-2**] 05:54 PM 75 mL/hour
   Glycemic Control:  Insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Lansoprazole
   VAP:  Chlorhexidine wash
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-05-03 10:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: hypoxemic resp failure
   24 Hour Events:
   Remained on CMV, decrased episodes of paradoxical breathing though
   still some autoPEEP and when tried on [**6-13**] PSV today dyschncrony
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2167-4-30**] 03:00 PM
   Vancomycin - [**2167-5-1**] 08:00 AM
   Cefipime - [**2167-5-2**] 04:26 PM
   Azithromycin - [**2167-5-2**] 08:00 PM
   Caspofungin - [**2167-5-2**] 09:00 PM
   Gancyclovir - [**2167-5-3**] 12:15 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-5-3**] 07:14 AM
   Other medications:
   Labetalol 400 TID,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia, hypertension
   Flowsheet Data as of  [**2167-5-3**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 81 (68 - 81) bpm
   BP: 184/89(121) {146/76(101) - 193/97(134)} mmHg
   RR: 17 (17 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
           Total In:
                                                                  4,168 mL
                                                                  1,443 mL
   PO:
           TF:
   IVF:
                                                                  1,698 mL
                                                                    385 mL
   Blood products:
                                                                    568 mL
                                                                    236 mL
   Total out:
                                                                  3,650 mL
                                                                  1,530 mL
   Urine:
                                                                  3,650 mL
                                                                  1,530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    518 mL
                                                                    -87 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 12
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   Compliance: 57.9 cmH2O/mL
   SpO2: 98%
   ABG: 7.39/48/112/26/3
   Ve: 10 L/min
   PaO2 / FiO2: 280
   Physical Exam
   Chronically ill male lying in bed with intermittent paradox breathing
   on ventilator
   CV: RR
   Chest: diffuse end exp wheezes though less than yesterday
   Abd: obese with occ forced exhalation with sig abdominal rounding
   Ext: chronic scarring
   Neuro: not responsive to verbal, min response to tactile stim
    Labs / Radiology
   9.0 g/dL
   26 K/uL
   210 mg/dL
   3.1 mg/dL
   26 mEq/L
   5.4 mEq/L
   119 mg/dL
   110 mEq/L
   147 mEq/L
   25.1 %
   3.0 K/uL
         [image002.jpg]
                             [**2167-5-1**]  02:32 PM
                             [**2167-5-1**]  09:00 PM
                             [**2167-5-1**]  09:17 PM
                             [**2167-5-2**]  01:14 AM
                             [**2167-5-2**]  04:30 AM
                             [**2167-5-2**]  10:37 AM
                             [**2167-5-2**]  04:10 PM
                             [**2167-5-2**]  04:29 PM
                             [**2167-5-3**]  04:00 AM
                             [**2167-5-3**]  04:17 AM
   WBC
   3.5
   3.3
   3.3
   3.0
   Hct
   22.2
   24.9
   23.8
   25.1
   Plt
   61
   32
   56
   26
   Cr
   3.2
   3.1
   TCO2
   28
   30
   31
   28
   30
   Glucose
   185
   210
   Other labs: PT / PTT / INR:12.3/24.7/1.0, ALT / AST:176/107, Alk Phos /
   T Bili:215/10.9, Differential-Neuts:87.0 %, Band:3.0 %, Lymph:5.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:291 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.8 g/dL, LDH:1117 IU/L, Ca++:8.9 mg/dL, Mg++:2.6 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   54 y/o man with mult myeloma s/p stem cell tx complicated by GCVD now
   new resp failure.
   Respiratory Failure
   -          Streptococcal (Group B) pneumonia with bacteremia, on ABX
   -          Obstructive Airways: COPD+/- developing obliterative
   bronchiolitis.
   -          some alveolar hemorrhage complicating his other issues.
   o         vanco, cefepime, azithro for PNA, now only GBS growing
   tailor to Cefipime monotherapy
   o         convert to PCP prophylaxis Dapsone when G6PD comes back (PCP
   DFA negative)
   o         Ganciclovir for possible CMV
   o         Has unusual end exp push with PSV, but have increased to
   [**11-13**] and will monitor closely
   Bacteremia (Beta Strep)
   -          On adequate antibacterial coverage
   -          Continue to collaborate with BMT and ID regarding
   immunosuppression
 very challenging give his GVHD
   HTN: increase labetalol 600 tid, Hydral 20 qid
   Acute Renal Failure
   -          Most likely ATN but med effect as well. Stopped Bactrim
   Renal dose meds. Renal folllowing
   Myeloma s/p transplant
   Graft vs. Host disease
   -          Continue to collaborate with BMT and ID regarding
   immunosuppression
 very challenging give his GVHD
   -          check SPEP and UPEP
   Thrombocytopenia
   -          keep > 50 for a day or two given possibility of DAH
   Anemia
          Transfuse as needed
   He remains critically ill.  Total time: 45
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-5-2**] 05:54 PM 75 mL/hour
   Glycemic Control:  Insulin in TPN
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Prophylaxis:
   DVT: none low plts
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 40 minutes
   Patient is critically ill

2167-05-04 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Renal recs: labetalol 600 mg tid, lasix 60mg x 2, to goal -1L: renal
   now recc 800 mg tid labetalol
   Id: keep cefepime and azithro for GBS; d/c vanco
   Vent- volume to 500 from 550, fio2 to 30 from 40, then back up to 40%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2167-5-1**] 08:00 AM
   Cefipime - [**2167-5-3**] 04:00 PM
   Azithromycin - [**2167-5-3**] 07:38 PM
   Caspofungin - [**2167-5-3**] 08:38 PM
   Gancyclovir - [**2167-5-4**] 12:10 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2167-5-3**] 05:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-5-4**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.8
   HR: 78 (74 - 85) bpm
   BP: 178/81(112) {137/63(88) - 187/90(122)} mmHg
   RR: 18 (9 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  4,197 mL
                                                                  1,020 mL
   PO:
             TF:
   IVF:
                                                                  1,707 mL
                                                                    424 mL
   Blood products:
                                                                    455 mL
   Total out:
                                                                  4,620 mL
                                                                  1,470 mL
   Urine:
                                                                  4,520 mL
                                                                  1,350 mL
   NG:
                                                                    100 mL
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                   -423 mL
                                                                   -450 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 990) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 12
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/39/104/28/0
   Ve: 11.3 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: oral bleeding and wounds
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   49 K/uL
   8.8 g/dL
   150 mg/dL
   3.2 mg/dL
   28 mEq/L
   5.6 mEq/L
   136 mg/dL
   113 mEq/L
   142 mEq/L
   24.6 %
   3.2 K/uL
        [image002.jpg]
                             [**2167-5-3**]  04:00 AM
                             [**2167-5-3**]  04:17 AM
                             [**2167-5-3**]  10:37 AM
                             [**2167-5-3**]  12:13 PM
                             [**2167-5-3**]  04:00 PM
                             [**2167-5-3**]  04:19 PM
                             [**2167-5-3**]  11:25 PM
                             [**2167-5-4**]  12:50 AM
                             [**2167-5-4**]  02:13 AM
                             [**2167-5-4**]  04:25 AM
   WBC
   3.0
   3.7
   3.2
   Hct
   25.1
   24.2
   24.6
   Plt
   26
   89
   48
   80
   49
   Cr
   3.1
   3.2
   3.2
   TCO2
   30
   28
   31
   28
   26
   Glucose
   [**Telephone/Fax (3) 1898**]50
   Other labs: PT / PTT / INR:12.4/24.6/1.0, ALT / AST:193/121, Alk Phos /
   T Bili:222/14.0, Differential-Neuts:87.0 %, Band:3.0 %, Lymph:5.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:291 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.9 g/dL, LDH:1096 IU/L, Ca++:9.0 mg/dL, Mg++:2.6 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   Assessment and Plan
   54M h/o recurrent multiple myeloma s/p cord blood transplant admitted
   with hypoxic respiratory failure, bacteremia, intubated, on ganciclovir
   for CMV viremia, caspofungin for fungal PPx,
   cefepime/azithromycin/vancomycin for group B strep in BAL/bacteremia.
   # Hypoxia
   Multiple etiologies, however we are leaning toward GVHD in lung w/
   possible BOOP overlay, causing obstructive process.  Also on ddx still
   is diffuse alveolar hemorrhage.  Although GBS in lung, w/ low counts
   and now w/ adequate treatment unlikely causing this level of
   hypoxemia.
   : Likely [**3-7**] group B strep pulmonary infection
 DAH, with ?
   obliterative bronchiolitis [**3-7**] lung GVHD
   - Vent goal: Decrease FiO2.
   - Transfusion goals [**3-7**] DAH: platelets > 50, HCT > 20, or if HCT drops
   by > 3.
   - ? Lung GVHD: Methylprednisolone 30mg [**Hospital1 **], cyclosporine 75mg [**Hospital1 **]
   - Pneumonia / bacteremia: Group B strep in blood, lung: Cefepime,
   azithromycin (d1 = [**4-29**]).  D/c vancomycin.
   - Supportive care: Nebs, suctioning
   - ID following
   # Infection
       # Group B strep bacteremia: TTE negative for vegetations; TEE
   deferred [**3-7**] bleeding risk
           - continue cefepine and azithromycin (day 1: [**4-29**]) day 4
       # PCP [**Name Initial (PRE) 1374**]: Negative active PCP [**Name Initial (PRE) 1893**]; needs PCP [**Name Initial (PRE) **] [**3-7**]
   steroid use.  Pending G6PD level, goal to start dapsone
       # CMV viremia: Continue gancyclovir, recheck viral loads weekly
       # Fungal PPx: Continue caspofungin
   # Hypertension:  Persistently hypertensive.
   - Labetolol increased to 600mg TID; furosemide 60mg IV x1 to maintain
   -1L negative
   - Hydralazine 20 mg IV Q6H, amlodipine 10mg daily
   # ARF: Meds vs ATN (muddy brown casts).
   - SPEP, UPEP pending, 24H urine protein pending
   - Renal following
   - Renally dose meds, minimize cyclosporine
   # GVHD: STABLE.  Confirmed liver involvement currently
   - Continue ursodiol, mycophenylate mofetil, solumedrol 30 mg [**Hospital1 **],
   cyclosporine 75 mg [**Hospital1 **] (follow cyclosporine levels).
   # Multiple myeloma s/p cord transplant: STABLE.  Continue management
   per BMT recs.
   - Continue mycophenylate mofetil, solumedrol, cyclosporine
   - Continue caspofungin for fungal ppx
   - BMT following
   # Duodenitis: STABLE  Duodenitis per EGD.
   -          PPI
   -          Enterocort for gut inflammation
   # Diabetes: STABLE.  Hyperglycemic with steroids.
   - Humalog insulin sliding scale with insulin in TPN
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-5-2**] 05:54 PM 75 mL/hour
   Glycemic Control:  Insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Lansoprazole
   VAP:  Chlorhexidine wash
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-5-3**] 05:51 PM 75 mL/hour
   Glycemic Control:  sliding scale insulin
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: lansoprazole
   VAP:  chlorhexidine, hob > 30 deg
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu

2167-05-04 10:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
    Bili
s rising
    Failed PSV trail
    Diuresis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2167-5-3**] 04:00 PM
   Azithromycin - [**2167-5-3**] 07:38 PM
   Caspofungin - [**2167-5-3**] 08:38 PM
   Gancyclovir - [**2167-5-4**] 12:10 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2167-5-3**] 05:35 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-5-4**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.4
   HR: 81 (74 - 85) bpm
   BP: 183/84(115) {137/63(88) - 184/87(122)} mmHg
   RR: 18 (9 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.7 kg (admission): 74.5 kg
   Height: 61 Inch
             Total In:
                                                                  4,197 mL
                                                                  1,432 mL
   PO:
             TF:
   IVF:
                                                                  1,707 mL
                                                                    532 mL
   Blood products:
                                                                    455 mL
   Total out:
                                                                  4,620 mL
                                                                  2,370 mL
   Urine:
                                                                  4,520 mL
                                                                  2,140 mL
   NG:
                                                                    100 mL
                                                                    230 mL
   Stool:
   Drains:
   Balance:
                                                                   -423 mL
                                                                   -938 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.42/39/104/28/0
   Ve: 9.2 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Chronically ill male lying in bed with intermittent paradox breathing
   on ventilator
   CV: RR
   Chest: diffuse end exp wheezes though less than yesterday
   Abd: obese with occ forced exhalation with sig abdominal rounding
   Ext: chronic scarring
   Neuro: not responsive to verbal, min response to tactile stim
   Labs / Radiology
   8.8 g/dL
   49 K/uL
   150 mg/dL
   3.2 mg/dL
   28 mEq/L
   5.6 mEq/L
   136 mg/dL
   113 mEq/L
   142 mEq/L
   24.6 %
   3.2 K/uL
        [image002.jpg]
                             [**2167-5-3**]  04:00 AM
                             [**2167-5-3**]  04:17 AM
                             [**2167-5-3**]  10:37 AM
                             [**2167-5-3**]  12:13 PM
                             [**2167-5-3**]  04:00 PM
                             [**2167-5-3**]  04:19 PM
                             [**2167-5-3**]  11:25 PM
                             [**2167-5-4**]  12:50 AM
                             [**2167-5-4**]  02:13 AM
                             [**2167-5-4**]  04:25 AM
   WBC
   3.0
   3.7
   3.2
   Hct
   25.1
   24.2
   24.6
   Plt
   26
   89
   48
   80
   49
   Cr
   3.1
   3.2
   3.2
   TCO2
   30
   28
   31
   28
   26
   Glucose
   [**Telephone/Fax (3) 1898**]50
   Other labs: PT / PTT / INR:12.4/24.6/1.0, ALT / AST:193/121, Alk Phos /
   T Bili:222/14.0, Differential-Neuts:87.0 %, Band:3.0 %, Lymph:5.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:291 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.9 g/dL, LDH:1096 IU/L, Ca++:9.0 mg/dL, Mg++:2.6 mg/dL,
   PO4:3.3 mg/dL
   CXR: left lung field clearing, persistent interstitial infiltrates on
   right
 not worse
   Assessment and Plan
   54 y/o man with mult myeloma s/p stem cell tx complicated by GCVD now
   new resp failure.
   Respiratory Failure
   -          Streptococcal (Group B) pneumonia with bacteremia which we
   are day #4 on ABX
   -          Obstructive Airways: COPD+/- developing obliterative
   bronchiolitis.
   -          some alveolar hemorrhage complicating his other issues.
   o         Cefipime monotherapy for GBS
   o         convert to PCP prophylaxis Dapsone
   [**Name Initial (PRE) **]         Ganciclovir for possible CMV- follow up VL today
   o         Has unusual end exp push
 there all the time but worse when
   he takes a large TV on PSV. Is this an effort to autoPEEP himself via
   end exp grunting due to volume overload- trying to diurese. Is this
   related to BO and when large tidal volume perceives flow limited and
   tried to assist exhalation (though not helping as liekly oon fixed
   portion of flow volume curve). Brought RT [**First Name8 (NamePattern2) **] [**Doctor Last Name 1911**] and Dr [**First Name8 (NamePattern2) 297**] [**Last Name (NamePattern1) 1912**]
   to bedisde for further evaluation and confirmed my findings. At this
   point we will try to treat PNA, diurese, nebs, getting steroids, and
   will work with efforts to get back on PSV.
   Bacteremia (Beta Strep)
   -          Cefipime
   -          Continue to collaborate with BMT and ID regarding
   immunosuppression
 very challenging give his GVHD
   HTN: increase labetalol 600 tid, Hydral 20 qid, diuresis
   Acute Renal Failure
   -          Most likely ATN but med effect as well. Stopped Bactrim
   Renal dose meds. Renal folllowing
   Myeloma s/p transplant
   Graft vs. Host disease
   -          Continue to collaborate with BMT and ID regarding
   immunosuppression
 very challenging give his GVHD
   -          check SPEP and UPEP
   -          Rising bilis are concerning for GVHD but also need to follow
   up CMV!
   Thrombocytopenia
   -          keep > 50 for a day or two given possibility of DAH
   Anemia
          Transfuse to HCT 21, Plt 50
   He remains critically ill.  Total time: 45
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-5-3**] 05:51 PM 75 mL/hour
   Glycemic Control:  SSRI
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Prophylaxis:
   DVT: none due to plts
   Stress ulcer: PPI
   VAP: HOB, chlorhex,
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2167-05-05 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2167-5-4**] 11:39 PM
   id can d/c vanc and azithro; no likely CMV
   ONC - increase steroids 40 mg iv bid for gvhd
   c diff sent for stool
   urine studies collect for 12-24 hrs ([**Doctor Last Name 1920**] wanted)
   vent: to PS [**11-13**]
   Inc sodium, K, creat, why??
   fam meeting on [**5-5**] to discuss goals of care w/ BMT
   vent to PS [**11-11**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2167-5-3**] 07:38 PM
   Cefipime - [**2167-5-4**] 04:06 PM
   Caspofungin - [**2167-5-4**] 08:17 PM
   Gancyclovir - [**2167-5-5**] 12:32 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-5-5**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.2
   HR: 83 (78 - 92) bpm
   BP: 159/73(101) {147/69(95) - 190/93(126)} mmHg
   RR: 8 (8 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.7 kg (admission): 74.5 kg
   Height: 61 Inch
             Total In:
                                                                  3,774 mL
                                                                  2,133 mL
   PO:
             TF:
   IVF:
                                                                  1,474 mL
                                                                  1,343 mL
   Blood products:
                                                                    230 mL
   Total out:
                                                                  5,180 mL
                                                                    950 mL
   Urine:
                                                                  4,950 mL
                                                                    950 mL
   NG:
                                                                    230 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,406 mL
                                                                  1,183 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 275 (275 - 1,084) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 10
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 21
   PIP: 6 cmH2O
   Plateau: 20 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 96%
   ABG: 7.42/42/95.[**Numeric Identifier 607**]/29/2
   Ve: 7.8 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   43 K/uL
   8.0 g/dL
   220 mg/dL
   3.4 mg/dL
   29 mEq/L
   5.3 mEq/L
   150 mg/dL
   108 mEq/L
   144 mEq/L
   22.7 %
   2.7 K/uL
        [image002.jpg]
                             [**2167-5-3**]  04:19 PM
                             [**2167-5-3**]  11:25 PM
                             [**2167-5-4**]  12:50 AM
                             [**2167-5-4**]  02:13 AM
                             [**2167-5-4**]  04:25 AM
                             [**2167-5-4**]  05:28 PM
                             [**2167-5-4**]  07:01 PM
                             [**2167-5-4**]  11:07 PM
                             [**2167-5-5**]  05:09 AM
                             [**2167-5-5**]  05:50 AM
   WBC
   3.2
   2.9
   2.9
   2.7
   Hct
   24.6
   24.4
   24.2
   22.7
   Plt
   80
   49
   33
   58
   43
   Cr
   3.2
   3.7
   3.4
   3.4
   TCO2
   31
   28
   26
   28
   28
   Glucose
   177
   150
   120
   141
   220
   Other labs: PT / PTT / INR:12.4/24.6/1.0, ALT / AST:199/131, Alk Phos /
   T Bili:211/13.3, Differential-Neuts:87.0 %, Band:3.0 %, Lymph:5.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:291 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.7 g/dL, LDH:1119 IU/L, Ca++:8.8 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.9 mg/dL
   Imaging: no new imaging
   Microbiology: [**5-4**] c diff negative
   [**5-3**] urine legionalla negative
   [**5-3**] CMV load pending
   [**4-30**], [**5-1**] blood cultures pending
   [**4-30**] toxo negative
   Assessment and Plan
   54M h/o recurrent multiple myeloma s/p cord blood transplant admitted
   with hypoxic respiratory failure, bacteremia, intubated, on ganciclovir
   for CMV viremia, caspofungin for fungal PPx,
   cefepime/azithromycin/vancomycin for group B strep in BAL/bacteremia.
   Hypoxia
   Multiple etiologies, however we are leaning toward GVHD in lung w/
   possible BOOP overlay, causing obstructive process.  Also on ddx still
   is diffuse alveolar hemorrhage, and CMV pneumonia.  Although GBS in
   lung, w/ low counts and now w/ adequate treatment unlikely causing this
   level of hypoxemia.  Per ID, unlikely that CMV is active in lung given
   relatively low recent CMV VL counts.
   - Vent goal: patient tolerated PSV 5/5 all day, will likely move up to
   [**11-11**] overnight, and possible SPT tomorrow.
   - will wean sedation
   - GVHD: Increase Methylprednisolone to 40 mg [**Hospital1 **], cyclosporine 75mg [**Hospital1 **]
   - Pneumonia / bacteremia: Group B strep in blood, lung: continue
   Cefepime day [**8-17**] (d1 = [**4-29**]).  s/p 5 days azithromycin.
   - Supportive care: Nebs, suctioning
   Right upper extremity swelling: unclear why, since low platelets and
   liver function, but evaluate for thrombus with UE u/s
   Infection / ID
   **Group B strep bacteremia: TTE negative for vegetations; TEE deferred
   [**3-7**] bleeding risk
   - continue cefepime 7/14 days today
   - s/p azithro
   **PCP prophylaxis
   [**Name Initial (PRE) **] Dapsone 100 mg daily
   **CMV viremia: Continue gancyclovir, recheck viral loads weekly;
   unlikely causing lung / liver findings
   **Fungal PPx: Continue caspofungin
    # RENAL
   **HTN Persistently hypertensive. Likely volume playing a role in
   refractory HTN.
   - Labetolol 800mg TID; furosemide 60mg IV x1 to maintain -1L negative
   - Hydralazine 20 mg IV Q6H, amlodipine 10mg daily
   **ARF: Meds vs ATN (muddy brown casts).
   - SPEP, UPEP pending, 24H urine protein pending
   - Renal following
   - Renally dose meds, minimize cyclosporine
   **Uremia: unclear etiology. Probably secondary to worsening renal
   function and GI bleeding.
   - platelet transusions
   - consider DDAVP
   # GVHD: LIVER
   LFTs, esp T Bili increasing, raising concern for reactivation now w/
   decreased immunosuppression. Also consider TTP with LDH in the 1000
   this is unlikely all secondary to GVHD, likely mutliple etiologies.
   -          Continue ursodiol, mycophenylate mofetil, solumedrol 30 mg
   [**Hospital1 **], cyclosporine 75 mg [**Hospital1 **] (follow cyclosporine levels).
   -          Discuss increase immunosuppression w/ BMT
   - patient not good candidate for plasma exchange right now, already
   prednosone.
   # HEME / ONC
   **Multiple myeloma s/p cord transplant: STABLE.  Continue management
   per BMT recs.
   - Continue mycophenylate mofetil, solumedrol, cyclosporine
   - Continue caspofungin for fungal ppx
   - BMT following
   **Anemia / Thrombocytopenia
   Transfusion goal, plt > 50, hct, drop > 5
   # Duodenitis: STABLE  Duodenitis per EGD.
   -  PPI
   -  Holding on Enterocort for gut inflammation, given inability to crush
   med for OG tube
   # Diabetes: STABLE.  Hyperglycemic with steroids.
   - Humalog insulin sliding scale with insulin in TPN
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-5-4**] 04:00 PM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments: Family meeting with BMT re goals of care
   Code status: Full code
   Disposition:

2167-05-05 11:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2167-5-4**] 11:39 PM
   With rising bili discussed with BMT and increased Solumedrol to 40
   twice a day for GVHD
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2167-5-3**] 07:38 PM
   Cefipime - [**2167-5-4**] 04:06 PM
   Caspofungin - [**2167-5-4**] 08:17 PM
   Gancyclovir - [**2167-5-5**] 12:32 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Other medications:
   ursodiol, Vit D,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-5-5**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98.1
   HR: 83 (78 - 92) bpm
   BP: 159/73(101) {147/69(95) - 187/91(124)} mmHg
   RR: 8 (8 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.7 kg (admission): 74.5 kg
   Height: 61 Inch
             Total In:
                                                                  3,774 mL
                                                                  3,150 mL
   PO:
             TF:
   IVF:
                                                                  1,474 mL
                                                                  2,085 mL
   Blood products:
                                                                    230 mL
   Total out:
                                                                  5,180 mL
                                                                  1,950 mL
   Urine:
                                                                  4,950 mL
                                                                  1,950 mL
   NG:
                                                                    230 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,406 mL
                                                                  1,200 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 275 (275 - 1,084) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 10
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 21
   PIP: 6 cmH2O
   Plateau: 20 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 96%
   ABG: 7.42/42/95.[**Numeric Identifier 607**]/29/2
   Ve: 7.8 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Lying in bed, intibated and sedated
   RR nl S1/S2
   Fair air movement, no wheeze today
 only intermittent end exp rounding
   Abd: soft distended
   Ext: 1+ edema
   Labs / Radiology
   8.0 g/dL
   43 K/uL
   220 mg/dL
   3.4 mg/dL
   29 mEq/L
   5.3 mEq/L
   150 mg/dL
   108 mEq/L
   144 mEq/L
   22.7 %
   2.7 K/uL
        [image002.jpg]
                             [**2167-5-3**]  04:19 PM
                             [**2167-5-3**]  11:25 PM
                             [**2167-5-4**]  12:50 AM
                             [**2167-5-4**]  02:13 AM
                             [**2167-5-4**]  04:25 AM
                             [**2167-5-4**]  05:28 PM
                             [**2167-5-4**]  07:01 PM
                             [**2167-5-4**]  11:07 PM
                             [**2167-5-5**]  05:09 AM
                             [**2167-5-5**]  05:50 AM
   WBC
   3.2
   2.9
   2.9
   2.7
   Hct
   24.6
   24.4
   24.2
   22.7
   Plt
   80
   49
   33
   58
   43
   Cr
   3.2
   3.7
   3.4
   3.4
   TCO2
   31
   28
   26
   28
   28
   Glucose
   177
   150
   120
   141
   220
   Other labs: PT / PTT / INR:12.4/24.6/1.0, ALT / AST:199/131, Alk Phos /
   T Bili:211/13.3, Differential-Neuts:87.0 %, Band:3.0 %, Lymph:5.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:291 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.7 g/dL, LDH:1119 IU/L, Ca++:8.8 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.9 mg/dL
   Microbiology: C diff neg
   CMV [**5-3**] pending
   Bl Cx [**5-1**] and [**4-30**] pending
   Assessment and Plan
   54 y/o man with mult myeloma s/p stem cell tx complicated by GCVD now
   new resp failure.
   Respiratory Failure: Multifactorial
   -          Streptococcal (Group B) pneumonia with bacteremia which we
   are day #5 on ABX
   -          Obstructive Airways: COPD+/- developing obliterative
   bronchiolitis.
   -          some alveolar hemorrhage complicating his other issues.
   o         Cefipime monotherapy for GBS
   o         PCP prophylaxis Dapsone
   [**Name Initial (PRE) **]         Ganciclovir for possible CMV- follow up VL today
   o         Has unusual end exp push
 there all the time but worse when
   he takes a large TV on PSV. Is this an effort to autoPEEP himself via
   end exp grunting due to volume overload- if so we are trying to
   diurese. Is this related to BO and when large tidal volume perceives
   flow limited and tried to assist exhalation (though not helping as
   likely on fixed portion of flow volume curve). Brought RT [**First Name8 (NamePattern2) **] [**Doctor Last Name 1911**] and
   Dr [**First Name8 (NamePattern2) 297**] [**Last Name (NamePattern1) 1912**] to bedisde for further evaluation and confirmed my
   findings.
   At this point we will try to treat PNA, diurese, nebs, getting
   steroids, and will work with efforts to lower PEEP and PS
   Bacteremia (Beta Strep)
   -          Cefipime [**6-17**]
   -          Continue to collaborate with BMT and ID regarding
   immunosuppression
 very challenging give his GVHD
   HTN: increase labetalol 600 tid, Hydral 20 qid, diuresis
   Acute Renal Failure
   -          Rising Cr, Most likely ATN but med effect as well. Stopped
   Bactrim Renal dose meds. Renal folllowing
   Myeloma s/p transplant
   Graft vs. Host disease
   -          Continue to collaborate with BMT and ID regarding
   immunosuppression
   -          check SPEP and UPEP
   -         Increased Medrol with Rising bilis are concerning for GVHD,
   follow up CMV
   Thrombocytopenia
   -          keep > 50 for recent DAH and now oral bleeding
   Anemia
          Transfuse to HCT 21, Plt 50
   He remains critically ill.  Total time: 40
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-5-4**] 04:00 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP: chlorhex, HOB
   Comments:
   Communication:  Family meeting today to review goals of care
   Code status: Full code
   Disposition :ICU
   Total time spent: 40

2167-05-06 07:24:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
   VENT wean-> PS 5/5
 10/5
 [**6-8**] again.  Was increased to assist in
   abdominal breathing, however increased peep did not help.
   D/C'd cyclosporin
   RUE u/s negative for DVT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2167-5-3**] 07:38 PM
   Cefipime - [**2167-5-5**] 04:00 PM
   Caspofungin - [**2167-5-5**] 08:00 PM
   Gancyclovir - [**2167-5-6**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-5-6**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.1
   HR: 83 (79 - 89) bpm
   BP: 156/70(95) {137/67(90) - 171/82(110)} mmHg
   RR: 11 (9 - 16) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.7 kg (admission): 74.5 kg
   Height: 61 Inch
             Total In:
                                                                  5,880 mL
                                                                    949 mL
   PO:
             TF:
   IVF:
                                                                  3,163 mL
                                                                    264 mL
   Blood products:
                                                                    467 mL
   Total out:
                                                                  4,715 mL
                                                                  1,240 mL
   Urine:
                                                                  4,715 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,165 mL
                                                                   -291 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 474 (93 - 1,200) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.44/43/61/24/4
   Ve: 13.3 L/min
   PaO2 / FiO2: 153
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube; bleeding, w/ clots and
   thick drying blood in mouth, no obvious bleeding lesions on examination
   of oral cavity
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   LUNG: dimineshed expiratory breath sounds bilaterally
   Skin:  warm
   Neurologic: sedated.
   EXTREM: RUE swelling >> LUE, 2+ pitting bilaterally
   Labs / Radiology
   59 K/uL
   8.0 g/dL
   109 mg/dL
   3.3 mg/dL
   24 mEq/L
   4.7 mEq/L
   150 mg/dL
   109 mEq/L
   143 mEq/L
   22.7 %
   2.9 K/uL
        [image002.jpg]
                             [**2167-5-4**]  04:25 AM
                             [**2167-5-4**]  05:28 PM
                             [**2167-5-4**]  07:01 PM
                             [**2167-5-4**]  11:07 PM
                             [**2167-5-5**]  05:09 AM
                             [**2167-5-5**]  05:50 AM
                             [**2167-5-5**]  02:53 PM
                             [**2167-5-5**]  06:03 PM
                             [**2167-5-6**]  04:15 AM
                             [**2167-5-6**]  04:30 AM
   WBC
   3.2
   2.9
   2.9
   2.7
   2.9
   Hct
   24.6
   24.4
   24.2
   22.7
   Plt
   49
   33
   58
   43
   95
   59
   Cr
   3.2
   3.7
   3.4
   3.4
   3.4
   3.3
   TCO2
   28
   28
   26
   30
   Glucose
   150
   120
   141
   220
   224
   109
   Other labs: PT / PTT / INR:12.6/23.6/1.1, ALT / AST:197/134, Alk Phos /
   T Bili:228/13.7, Differential-Neuts:87.0 %, Band:3.0 %, Lymph:5.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:291 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.8 g/dL, LDH:1270 IU/L, Ca++:9.0 mg/dL, Mg++:2.4 mg/dL,
   PO4:4.1 mg/dL
   RADS
   DVT
   UPPER EXTREMITY VEINS, RIGHT:  Grayscale and color Doppler ultrasound w
   ere
   performed.  There is normal compressibility, color flow and Doppler sig
   nal
   within the right internal jugular, subclavian, axillary, brachial as we
   ll as
   the cephalic and basilic veins.
   IMPRESSION:  No evidence of DVT.
   CXR
   FINDINGS:  In comparison with the study of [**5-4**], the patient has taken
   a much
   poorer inspiration.  The opacifications have increased substantially,
   especially on the right.  Further fullness of the pulmonary vessels on
   the
   left again suggests that this represents primarily pulmonary edema.  Ho
   [**Last Name (un) **],
   the possibility of supervening infection can certainly not be excluded.
   MICRO
   [**5-1**]: CRYPTO NEG:
   [**5-3**]: CMV: 752 copies
   [**5-3**]: urine legionella neg
   [**5-4**]: c diff neg
   Assessment and Plan
   54M h/o recurrent multiple myeloma s/p cord blood transplant admitted
   with hypoxic respiratory failure, bacteremia, intubated, on ganciclovir
   for CMV viremia, caspofungin for fungal PPx,
   cefepime/azithromycin/vancomycin for group B strep in BAL/bacteremia.
   # Hypoxia
   Multiple etiologies, however we are leaning toward GVHD in lung w/
   possible bronchiolitis obliterans overlay, causing obstructive
   process.  Also on ddx still is diffuse alveolar hemorrhage.  CMV
   pneumonia unlikely given stable viral load.  Although GBS in lung, w/
   low counts and now w/ adequate treatment unlikely causing this level of
   hypoxemia.
   Barriers to extubation:
   1) mouth bleeding: ENT packed mouth lesion, transfuse platelets to stop
   bleeding; mouth packing to be removed prior to extubation
   2) Mental status: will decrease sedation.  If not improve, will
   consider other etiologies, aka uremia.
   3) SBT
 to ? eval later today
   - Vent goal: back to [**6-8**].  GOAL: decrease sedation and attempt spon
   breathing trial
   - GVHD: Increased Methylprednisolone to 40 mg [**Hospital1 **] yesterday;
   cyclosporine d/c
d due to ? of TTP.  Cont MMF.
   - Pneumonia / bacteremia: Group B strep in blood, lung: continue
   Cefepime day [**9-17**] (d1 = [**4-29**]).  s/p 5 days azithromycin.
   - Supportive care: Nebs, suctioning
    # Right upper extremity swelling
   Ultrasound NEG for DVT.  However, still suspicious for DVT esp given R
   subclav HICKMAN.
   ? bleeding, esp given plts and ecchymoses on RUE posteriorly.  Will ask
   rads to review study for hematoma, and consider further eval for clot,
   compartment syndrome.
   # Infection / ID
   **Group B strep bacteremia: TTE negative for vegetations; TEE deferred
   [**3-7**] bleeding risk
   - continue cefepime 9/14 days today; last day [**5-11**]
   - s/p azithro
    **PCP prophylaxis
   [**Name Initial (PRE) **] Dapsone 100 mg daily
    **CMV viremia: Continue gancyclovir, recheck viral loads weekly;
   unlikely causing lung / liver findings
    **Fungal PPx: Continue caspofungin
    # RENAL
   **HTN Persistently hypertensive. Likely volume playing a role in
   refractory HTN.
   - Labetolol 800mg TID; furosemide 60mg IV x1 to maintain -1L negative
   - Hydralazine 20 mg IV Q6H, amlodipine 10mg daily
   **ARF: Meds vs ATN (muddy brown casts).
   - SPEP, UPEP pending, 24H urine protein pending
   - Renal following
   -          Renally dose meds,
   -          Cyclosporine d/c
   -          I/O GOAL -500 to
 1000 cc
    **Uremia: unclear etiology. Probably secondary to worsening renal
   function and GI bleeding.
   - platelet transusions
   - consider DDAVP
   # GVHD: LIVER
   LFTs stabilized.
   Increased prednisone dose, d/c
d cyclosporine, cont MMF.
   -          Continue ursodiol, mycophenylate mofetil, solumedrol 30 mg
   [**Hospital1 **], cyclosporine 75 mg [**Hospital1 **] (follow cyclosporine levels).
   -          Discuss increase immunosuppression w/ BMT
   # HEME / ONC
   **Multiple myeloma s/p cord transplant: STABLE.  Continue management
   per BMT recs.
   - Continue mycophenylate mofetil, solumedrol
   - Continue caspofungin for fungal ppx
   - BMT following
   **Anemia / Thrombocytopenia
   ? TTP, schisto
s, inc LDH, renal failure, thrombocytopenia,
   intermittent fevers.
   Will discuss plasmapheresis w/ BMT/ renal today /
   Transfusion goals HCT < 22, PLTS if ongoing oral bleeding
   - PM HCT / PLT count
   # Duodenitis: STABLE  Duodenitis per EGD.
   -  PPI
   -  Holding on Enterocort for gut inflammation, given inability to crush
   med for OG tube
   # Diabetes: STABLE.  Hyperglycemic with steroids.
   - Humalog insulin sliding scale with insulin in TPN
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-5-5**] 03:50 PM 75 mL/hour
   Glycemic Control:  ssi
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: lansoprazole
   VAP:  chlorhexidine, hob > 30 deg, mouth care
   Comments:
   Communication:  Comments: fam meetings ongoing, social work meet w/
   wife
   [**Name (NI) 66**] status: Full code
   Disposition:icu

2167-05-07 07:25:00 Physician Resident Progress Note
Chief Complaint: hypoxemia
   24 Hour Events:
   - ENT: One bleeding lesion, packed, plan for 2 days packing, apply
   vaseline/aquaphor to lips
   - Ultrasound: No hematoma, no thrombosis
   - BMT: No plasmapheresis as this is cyclosporine-induced TTP, no DDAVP
   as also malignant HTN, stop dapsone as mildly G6PD deficient
   - Vent: Off sedation.  RSBI 45, PS 5/5.  No mental status.
   - Renal: Will start CVVH through chemo line
   - PICC requested STAT but not done
   - 1 unit PRBC, 2 unit platelets
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2167-5-6**] 04:02 PM
   Caspofungin - [**2167-5-6**] 08:53 PM
   Gancyclovir - [**2167-5-7**] 12:37 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2167-5-6**] 05:00 PM
   Midazolam (Versed) - [**2167-5-6**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-5-7**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 84 (78 - 92) bpm
   BP: 176/73(106) {148/68(92) - 195/87(121)} mmHg
   RR: 19 (11 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.7 kg (admission): 74.5 kg
   Height: 61 Inch
             Total In:
                                                                  3,289 mL
                                                                    348 mL
   PO:
             TF:
   IVF:
                                                                  1,087 mL
                                                                    228 mL
   Blood products:
                                                                    594 mL
   Total out:
                                                                  4,670 mL
                                                                  1,130 mL
   Urine:
                                                                  4,670 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,381 mL
                                                                   -782 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 827 (781 - 980) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.42/39/78.[**Numeric Identifier 244**]/24/0
   Ve: 14.2 L/min
   PaO2 / FiO2: 197
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   68 K/uL
   8.9 g/dL
   117 mg/dL
   3.7 mg/dL
   24 mEq/L
   3.9 mEq/L
   157 mg/dL
   103 mEq/L
   142 mEq/L
   24.2 %
   2.9 K/uL
        [image002.jpg]
   1 units PRBCs
   2 units platelets
                             [**2167-5-5**]  05:50 AM
                             [**2167-5-5**]  02:53 PM
                             [**2167-5-5**]  06:03 PM
                             [**2167-5-6**]  04:15 AM
                             [**2167-5-6**]  04:30 AM
                             [**2167-5-6**]  12:54 PM
                             [**2167-5-6**]  01:05 PM
                             [**2167-5-6**]  04:04 PM
                             [**2167-5-7**]  12:10 AM
                             [**2167-5-7**]  05:34 AM
   WBC
   2.9
   2.9
   2.9
   Hct
   20.0
   24.3
   24.2
   Plt
   95
   59
   80
   67
   90
   68
   Cr
   3.4
   3.3
   3.7
   TCO2
   28
   26
   30
   26
   Glucose
   [**Telephone/Fax (3) 1953**]
   Other labs: PT / PTT / INR:12.6/23.9/1.1, ALT / AST:201/150, Alk Phos /
   T Bili:277/11.1, Differential-Neuts:87.0 %, Band:3.0 %, Lymph:5.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:291 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.8 g/dL, LDH:1361 IU/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.7 mg/dL
   MICRO
   HERPES 6 PCR
   [1][**2167-5-1**] 12:18PM
   PND
   [All.......]
   [All.............]
   [All......]
   [2][**2167-5-4**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN ASSAY-FINAL
   INPATIENT
   [3][**2167-5-3**]
   URINE
   Legionella Urinary Antigen -FINAL
   INPATIENT
   [4][**2167-5-3**]
   Immunology (CMV)
   CMV Viral Load-FINAL
   INPATIENT
   [5][**2167-5-1**]
   SEROLOGY/BLOOD
   CRYPTOCOCCAL ANTIGEN-FINAL
   INPATIENT
   [6][**2167-5-1**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [7][**2167-4-30**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   [8][**2167-4-30**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   [9][**2167-4-30**]
   Blood (Toxo)
   TOXOPLASMA IgG ANTIBODY-FINAL; TOXOPLASMA IgM ANTIBODY-FINAL
   RADS
   CXR
   FINDINGS:  In comparison with the study of [**5-5**], allowing for obliquity
   of the
   patient, there is probably little overall change.  Again, there are low
    lung
   volumes with diffuse bilateral pulmonary opacifications, more marked on
    the
   right.  Tubes remain in place.
   Assessment and Plan
   54M h/o recurrent multiple myeloma s/p cord blood transplant admitted
   with hypoxic respiratory failure, bacteremia, intubated, on ganciclovir
   for CMV viremia, caspofungin for fungal PPx,
   cefepime/azithromycin/vancomycin for group B strep in BAL/bacteremia.
   # Hypoxia
   Multiple etiologies, however we are leaning toward GVHD in lung w/
   possible BOOP overlay, causing obstructive process.  Also on ddx still
   is diffuse alveolar hemorrhage, and CMV pneumonia.  Although GBS in
   lung, w/ low counts and now w/ adequate treatment unlikely causing this
   level of hypoxemia.  Per ID, unlikely that CMV is active in lung given
   relatively low recent CMV VL counts.
   - Vent goal: patient tolerated PSV 5/5 all day, will likely move up to
   [**11-11**] overnight, and possible SPT tomorrow.
   - will wean sedation
   - GVHD: Methylprednisolone 40 mg [**Hospital1 **], MMF 1000 mg [**Hospital1 **]
   - Pneumonia / bacteremia: Group B strep in blood, lung: continue
   Cefepime day [**8-17**] (d1 = [**4-29**]).  s/p 5 days azithromycin.
   - Supportive care: Nebs, suctioning
   - Mouth ulcers - packed
   # Right upper extremity swelling: unclear why, since low platelets and
   liver function, but evaluate for thrombus with UE u/s
   # Infection / ID
   **Group B strep bacteremia: TTE negative for vegetations; TEE deferred
   [**3-7**] bleeding risk
   - continue cefepime 9/14 days today, until [**5-13**]
   **PCP prophylaxis
   [**Name Initial (PRE) **] Dapsone 100 mg daily
   **CMV viremia: Continue gancyclovir, recheck viral loads weekly;
   unlikely causing lung / liver findings
   **Fungal PPx: Continue caspofungin
    # RENAL
   **ARF: Meds vs ATN (muddy brown casts).
   CVVH
   - SPEP, UPEP pending, 24H urine protein pending
   - Renal following
   **HTN Persistently hypertensive. Likely volume playing a role in
   refractory HTN.
   - Labetolol 800mg TID; furosemide 60mg IV x1 to maintain -1L negative
   - Hydralazine 20 mg IV Q6H, amlodipine 10mg daily
   **Uremia: unclear etiology. Probably secondary to worsening renal
   function and GI bleeding.
   - platelet transusions
   - NO  DDAVP per heme
   # GVHD: LIVER
   LFTs, esp T Bili increasing, raising concern for reactivation now w/
   decreased immunosuppression. Also consider TTP with LDH in the 1000
   this is unlikely all secondary to GVHD, likely mutliple etiologies.
   -          Continue ursodiol, mycophenylate mofetil, solumedrol 40 mg
   [**Hospital1 **],
   - patient not good candidate for plasma exchange right now, already
   prednosone.
   # HEME / ONC
   ? TTP
   Will resolve post cyclosporine; no need for pheresis
   **Multiple myeloma s/p cord transplant: STABLE.  Continue management
   per BMT recs.
   - Continue mycophenylate mofetil, solumedrol,
   - Continue caspofungin for fungal ppx
   - BMT following
   **Anemia / Thrombocytopenia
   Transfusion goal, plt > 50, hct, drop > 5
    # Duodenitis: STABLE  Duodenitis per EGD.
   -  PPI
   -  Holding on Enterocort for gut inflammation, given inability to crush
   med for OG tube
   # Diabetes: STABLE.  Hyperglycemic with steroids.
   - Humalog insulin sliding scale with insulin in TPN
   ICU Care
   Nutrition:
   TPN
   Glycemic Control:  SSI; good control
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: lanzoprazole
   VAP:  mouth care, chlorhexidine, hob > 30 deg
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 66**] status: Full code
   Disposition:icu
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_141%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);

2167-05-07 11:11:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Oral lesion found by ENT, and packed.
   Renal consult.
   Sedation held but did not wake up fully.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2167-5-6**] 04:02 PM
   Caspofungin - [**2167-5-6**] 08:53 PM
   Gancyclovir - [**2167-5-7**] 12:37 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2167-5-6**] 05:00 PM
   Midazolam (Versed) - [**2167-5-6**] 05:00 PM
   Other medications:
   Per [**Month (only) **], which we reviewed on rounds.  Esp notable for steroids and MMF
   but no cyclosporine.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-5-7**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 96 (78 - 96) bpm
   BP: 196/89(125) {148/70(95) - 196/89(125)} mmHg
   RR: 20 (11 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.7 kg (admission): 74.5 kg
   Height: 61 Inch
             Total In:
                                                                  3,289 mL
                                                                    564 mL
   PO:
             TF:
   IVF:
                                                                  1,087 mL
                                                                    324 mL
   Blood products:
                                                                    594 mL
   Total out:
                                                                  4,670 mL
                                                                  1,930 mL
   Urine:
                                                                  4,670 mL
                                                                  1,930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,381 mL
                                                                 -1,366 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 825 (781 - 980) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 12 cmH2O
   SpO2: 99%
   ABG: 7.42/39/78.[**Numeric Identifier 244**]/24/0
   Ve: 22.8 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   , Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Normal
   Continues to have expiratory pushing, and an unusual expiratory flow
   loop.
   Labs / Radiology
   8.9 g/dL
   68 K/uL
   117 mg/dL
   3.7 mg/dL
   24 mEq/L
   3.9 mEq/L
   157 mg/dL
   103 mEq/L
   142 mEq/L
   24.2 %
   2.9 K/uL
        [image002.jpg]
                             [**2167-5-5**]  05:50 AM
                             [**2167-5-5**]  02:53 PM
                             [**2167-5-5**]  06:03 PM
                             [**2167-5-6**]  04:15 AM
                             [**2167-5-6**]  04:30 AM
                             [**2167-5-6**]  12:54 PM
                             [**2167-5-6**]  01:05 PM
                             [**2167-5-6**]  04:04 PM
                             [**2167-5-7**]  12:10 AM
                             [**2167-5-7**]  05:34 AM
   WBC
   2.9
   2.9
   2.9
   Hct
   20.0
   24.3
   24.2
   Plt
   95
   59
   80
   67
   90
   68
   Cr
   3.4
   3.3
   3.7
   TCO2
   28
   26
   30
   26
   Glucose
   [**Telephone/Fax (3) 1953**]
   Other labs: PT / PTT / INR:12.6/23.9/1.1, ALT / AST:201/150, Alk Phos /
   T Bili:277/11.1, Differential-Neuts:87.0 %, Band:3.0 %, Lymph:5.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:291 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.8 g/dL, LDH:1361 IU/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.7 mg/dL
   Assessment and Plan
   54-year-old man with multiple myeloma complicated by GVHD, now with
   respiratory failure, renal failure, hemolyis, and continued depressed
   mental status.
   Respiratory Failure: Multifactorial
          Streptococcal (Group B) pneumonia with bacteremia which we
   are day #9 on ABX
          Obstructive Airways: COPD+/- developing obliterative
   bronchiolitis.
          Some alveolar hemorrhage complicating his other issues.
          Rx
   o         Cefipime monotherapy for GBS x 14d, per ID
   o         Discuss PCP prophylaxis with onc and ID.
   o         He is on ganciclovir for possible CMV.  Follow weekly VL.
   Bacteremia (Beta Strep)
   -          Cefipime [**10-18**]
   -          Appreciate BMT
s help with titrating immunosuppression
   very challenging give his GVHD
   HTN:
   Continue current rx
   Acute Renal Failure
          DDx includes TTP (calcineurin-inhibitor-associated) and ATN.
          Keep off calcineurin inhibitor
          He has some ongoing bleeding that may be partially a
   consequence of uremia.
          Per renal, will start dialysis today
   o         Will place ultrasound-guided dialysis line today
   o         Discuss with BMT whether ddAVP is indicated before
   Myeloma s/p transplant
   Graft vs. Host disease
   Continue to collaborate with BMT and ID regarding immunosuppression
   Continue steroids and MMF for now
   Thrombocytopenia
   keep > 50 for recent DAH and now oral bleeding
   Anemia
   Transfuse to HCT 21, Plt 50
   ICU Care
   Nutrition: TPN.  Discuss with BMT about TF trial
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill

2167-05-08 07:12:00 Physician Resident Progress Note
Chief Complaint: hypoxemia
   24 Hour Events:
 DIALYSIS CATHETER - START [**2167-5-7**] 03:00 PM
   pt continues to bleed from insertion site
 BLOOD CULTURED - At [**2167-5-7**] 10:37 PM
 URINE CULTURE - At [**2167-5-8**] 12:38 AM
 ULTRASOUND - At [**2167-5-8**] 12:39 AM
   --------------------------------
   lasix d/c'd due to increased bun / creat
   platelets < 50 k, platelets transfused 1 unit
   HD line placed, ok to use DDAVP, was used, placed R IJ, some bleeding
   at site
   T-> 100 in late afternoon
   abg: 7.55/29/50 on ps [**11-13**] 40%
   recruitment manuever used to improve o2.
   BP decreased to systolic 120s
   PEEP increased to 10 as above, BP cont decline to 90s.
   PEEP decreased to 5, bp improved
   for decreased SATS fi02 increased to 80%, then titrated back down
   progressively decreased FiO2 to 60%
   then bradycardic, hypotensive--. abg: 7.39/47/42
   placed on 100% fio2. peep not increased due to low BP before.  Sedation
   increased to decrease work of breathing.
   CXR w/ worse r infiltrate: started vanco / cipro for broadened coverage
   cultures sent - urine / blood
   ? PE: LENIS-> negative
   PEEP to 10.
   2 units PRBCs transfused 24 hrs.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2167-5-7**] 06:14 PM
   Vancomycin - [**2167-5-7**] 10:00 PM
   Caspofungin - [**2167-5-7**] 10:12 PM
   Ciprofloxacin - [**2167-5-7**] 11:00 PM
   Gancyclovir - [**2167-5-8**] 12:40 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 250 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2167-5-7**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-5-8**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.7
C (99.9
   HR: 85 (75 - 98) bpm
   BP: 139/67(88) {91/50(61) - 196/89(125)} mmHg
   RR: 15 (15 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.7 kg (admission): 74.5 kg
   Height: 61 Inch
           Total In:
                                                                  4,261 mL
                                                                  1,328 mL
   PO:
           TF:
   IVF:
                                                                  1,431 mL
                                                                    427 mL
   Blood products:
                                                                    610 mL
                                                                    375 mL
   Total out:
                                                                  3,180 mL
                                                                     45 mL
   Urine:
                                                                  3,150 mL
                                                                     45 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  1,081 mL
                                                                  1,283 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 747 (732 - 872) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.39/43/162/25/1
   Ve: 16.4 L/min
   PaO2 / FiO2: 162
   Physical Examination
   Gen: intubated, sedated.
   Skin: ashen skin at chest.  Pink / purple non blanceable petechiae and
   macules on legs, L inner thigh, feet, chest.
   HEENT: icteric sclerae.  Gauze removed from mouth, no oral bleeding. R
   IJ in place, no further bleeding at insertion site.  Thickened neck,
   supraclavicular area bilaterally.
   COR: nl s1s2
   PUL: increased work of breathing.  Wet rales bilaterally.
   ABD: soft, no masses, organomegaly.
   EXTREM: rash as above. 2+ DP. Warm. Anasarca, [**3-8**]+.
   Labs / Radiology
   52 K/uL
   9.5 g/dL
   68 mg/dL
   3.5 mg/dL
   25 mEq/L
   4.3 mEq/L
   128 mg/dL
   105 mEq/L
   143 mEq/L
   25.2 %
   3.2 K/uL
        [image002.jpg]
                             [**2167-5-7**]  02:26 PM
                             [**2167-5-7**]  05:35 PM
                             [**2167-5-7**]  06:27 PM
                             [**2167-5-7**]  08:05 PM
                             [**2167-5-7**]  09:05 PM
                             [**2167-5-7**]  11:32 PM
                             [**2167-5-7**]  11:55 PM
                             [**2167-5-8**]  03:08 AM
                             [**2167-5-8**]  05:36 AM
                             [**2167-5-8**]  06:33 AM
   WBC
   2.3
   2.7
   2.8
   3.2
   Hct
   23.9
   21.8
   21.0
   25.2
   Plt
   42
   81
   73
   52
   Cr
   3.1
   3.5
   TCO2
   26
   30
   30
   28
   29
   27
   Glucose
   70
   68
   Other labs: PT / PTT / INR:13.4/23.9/1.1, CK / CKMB / Troponin-T:267//,
   ALT / AST:181/149, Alk Phos / T Bili:261/11.4, Differential-Neuts:96.0
   %, Band:4.0 %, Lymph:0.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:291
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.7 g/dL, LDH:1181 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:5.7 mg/dL
   Micro
   Urine + blood recultured
   Ua w/ blood, no e/o UTI
   Rads
   Cxrs reviewed
   Assessment and Plan
   Assessment and Plan
   54M h/o recurrent multiple myeloma s/p cord blood transplant admitted
   with hypoxic respiratory failure, bacteremia, intubated, on ganciclovir
   for CMV viremia, caspofungin for fungal PPx,
   cefepime/azithromycin/vancomycin for group B strep in BAL/bacteremia.
   # Hypoxia
   Significant worsening overnight.
   Increased O2 requirement.
   DAH (hct drop, no bump w/ transfustion) vs VAP vs PE.
   Overnight increased FiO2 and PEEP, w/ improvement.  NO report of major
   ET bleeding.
   NEG workup for DVT at legs and RUE so far.  OFF ppx.
   Will w/u ? PE w/ V/Q potentially.  Poor candidate for CTA.
   -          eval echo for r heart strain
   -          eval for PE
   -          cont broadened antibiotics for ? VAP w/ pseudomonal
   coverage, MRSA
   -          transfuse plts < 50 w/ ? DAH, hct < 25.
   -          Consider IV gtts heparin if large PE w/ studies
   -          Possible bronch if fio2 requirement improved in the PM
   -          Wean fio2 preferentially over PEEP
   # Hypotension / Bradycardia
   Likely due to brief episode of hypoxia.
   Also ? CNS lesion, bleeding.
   Likely related to first HD also.
   Sepsis also on ddx.
   Consider CT head for eval if downstairs for other studies.
   # Infection / ID
   ** ? New VAP.
   Also must consider DIC / systemic infection w/ petechial / macular
   rash.
   Cont cefepime, vancomycin, ciprofloxacin.
   **Group B strep bacteremia: TTE negative for vegetations; TEE deferred
   [**3-7**] bleeding risk
   - continue cefepime ? 10/14 days today, until [**5-13**] (unclear course w/ ?
   VAP)
   **PCP prophylaxis
   [**Name Initial (PRE) **] [**Name9 (PRE) 1569**] dapsone 100 mg daily given relatively low G6PD
   **CMV viremia: Continue gancyclovir, recheck viral loads weekly;
   unlikely causing lung / liver findings
   **Fungal PPx: Continue caspofungin
   # RENAL
   **ARF:
   Blood in urine.
   ? nephritis process.  Will send c+p ANCA, [**Doctor First Name 1205**], ant GBM for pulm / renal
   syndrome.
   Post HD catheter, and first HD yesterday.
   Will cont HD today.
   - Renal following
   **HTN
   W/ hypotension yesterday, will hold all antihypertensives.
   Hydral PRN.
   **Uremia: unclear etiology. Probably secondary to worsening renal
   function and GI bleeding.
   - platelet transusions
   - NO  DDAVP per heme
   ** I / O goal
   Even.   Will d/c lasix.
   # GVHD: LIVER
   LFTs stabilized.
   - Continue ursodiol, mycophenylate mofetil, solumedrol 40 mg [**Hospital1 **]
   # HEME / ONC
   ? TTP
   Will resolve post cyclosporine d/c; no need for pheresis.
   Cont monitor plt #.
   **Multiple myeloma s/p cord transplant: STABLE.  Continue management
   per BMT recs.
   - Continue mycophenylate mofetil, solumedrol,
   - Continue caspofungin for fungal ppx
   - BMT following
   **Anemia / Thrombocytopenia
   Transfusion goal, plt > 50, hct, drop > 5
    # Duodenitis: STABLE  Duodenitis per EGD.
   -  PPI
   -  Holding on Enterocort for gut inflammation, given inability to crush
   med for OG tube
   # Diabetes: STABLE.  Hyperglycemic with steroids.
   - Humalog insulin sliding scale with insulin in TPN
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-5-7**] 03:47 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Dialysis Catheter - [**2167-5-7**] 03:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: lanzoprazole
   VAP:  mouth care on hold w/ oral bleeding / gauze. Hob > 30
   Comments:
   Communication:  Comments: wife, family
   [**Name2 (NI) 66**] status: Full code
   Disposition: icu

2167-05-08 09:19:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Eventful day.
   HD catheter placed without event, although some oozing after.
   Some hypotension with HD.  Finished HD session.
   Later in evening, developed dyssynchrony with ventilator, low-grade
   temp (100.2), high Vmin.  Multiple ventilator adjustments ending with
   FiO2 1.0, PEEP 10.  Had an episode of bradycardia with hypotension,
   which was brief.
   ENT removed packing this morning: bleeding had stopped.  Recommended
   against deep oral care.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2167-5-7**] 06:14 PM
   Vancomycin - [**2167-5-7**] 10:00 PM
   Caspofungin - [**2167-5-7**] 10:12 PM
   Ciprofloxacin - [**2167-5-7**] 11:00 PM
   Gancyclovir - [**2167-5-8**] 12:40 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Propofol - 20 mcg/Kg/min
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Fentanyl - [**2167-5-8**] 08:08 AM
   Other medications:
   vit D, caspo, MMF, Norvasc, CHG, PPI, albuterol, SQI, ganciclovir,
   hydral, labetalol (held), cefepime, atovaquone, cipro, vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-5-8**] 09:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.8
   HR: 84 (75 - 98) bpm
   BP: 138/68(89) {91/50(61) - 196/89(125)} mmHg
   RR: 12 (12 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.7 kg (admission): 74.5 kg
   Height: 61 Inch
           Total In:
                                                                  4,261 mL
                                                                  1,581 mL
   PO:
           TF:
   IVF:
                                                                  1,431 mL
                                                                    526 mL
   Blood products:
                                                                    610 mL
                                                                    375 mL
   Total out:
                                                                  3,180 mL
                                                                     55 mL
   Urine:
                                                                  3,150 mL
                                                                     55 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  1,081 mL
                                                                  1,526 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 747 (732 - 872) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 90%
   RSBI Deferred: FiO2 > 60%
   PIP: 25 cmH2O
   SpO2: 100%
   ABG: 7.39/43/162/25/1
   Ve: 17.9 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   9.5 g/dL
   52 K/uL
   68 mg/dL
   3.5 mg/dL
   25 mEq/L
   4.3 mEq/L
   128 mg/dL
   105 mEq/L
   143 mEq/L
   25.2 %
   3.2 K/uL
        [image002.jpg]
                             [**2167-5-7**]  02:26 PM
                             [**2167-5-7**]  05:35 PM
                             [**2167-5-7**]  06:27 PM
                             [**2167-5-7**]  08:05 PM
                             [**2167-5-7**]  09:05 PM
                             [**2167-5-7**]  11:32 PM
                             [**2167-5-7**]  11:55 PM
                             [**2167-5-8**]  03:08 AM
                             [**2167-5-8**]  05:36 AM
                             [**2167-5-8**]  06:33 AM
   WBC
   2.3
   2.7
   2.8
   3.2
   Hct
   23.9
   21.8
   21.0
   25.2
   Plt
   42
   81
   73
   52
   Cr
   3.1
   3.5
   TCO2
   26
   30
   30
   28
   29
   27
   Glucose
   70
   68
   Other labs: PT / PTT / INR:13.2/27.1/1.1, CK / CKMB / Troponin-T:267//,
   ALT / AST:181/149, Alk Phos / T Bili:261/11.4, Differential-Neuts:96.0
   %, Band:4.0 %, Lymph:0.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:291
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.7 g/dL, LDH:1181 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:5.7 mg/dL
   Imaging: LENIs (-).
   CXR shows increased right-sided opacities, and possible LUL
   Assessment and Plan
   54-year-old man with multiple myeloma complicated by GVHD, now with
   respiratory failure, renal failure, hemolyis, and continued depressed
   mental status.  He has worsened significantly since yesterday.
   Respiratory Failure: Multifactorial
          Streptococcal (Group B) pneumonia with bacteremia which we
   are day #10 on ABX
          Obstructive Airways: COPD+/- developing obliterative
   bronchiolitis.
          Some alveolar hemorrhage complicating his other issues.
          He has worsened significantly compared with yesterday.
   o         Differential includes recurrent alveolar hemorrhage, new VAP,
   PE (based on CXR).
   o         CTA is high risk.  LENIs are negative.  We will discuss with
   BMT regarding whether heparinization would be possible.  If so, we
   would likely pursue CTA in collaboration with hemodialysis.
          Rx
   o         Cefipime monotherapy for GBS x 14d, per ID
   o         Cipro for coverage of a broader range of GNR
   o         Vanco to cover MRSA
   o         He is on ganciclovir for possible CMV.  Follow weekly VL.
   o         Discuss antibiotics with ID and BMT
   o         If his FiO2 comes down some today, would re-bronch to
   ascertain whether there is active lower airway bleeding
   Bacteremia (Beta Strep)
   -          Cefipime [**11-17**]
   -          Appreciate BMT
s help with titrating immunosuppression
   very challenging give his GVHD
   HTN:
   Hold antihypertensives
   Acute Renal Failure
          DDx includes TTP (calcineurin-inhibitor-associated) and ATN.
          Keep off calcineurin inhibitor
          He has some ongoing bleeding that may be partially a
   consequence of uremia.
          Now on hemodialysis.  [**Month (only) 60**] need to convert to CVVH.
          Sent ANCA, [**Doctor First Name 1205**], anti-GBM if they have not been sent
   previously.
   Myeloma s/p transplant
   Graft vs. Host disease
   Continue to collaborate with BMT and ID regarding immunosuppression
   Continue steroids and MMF for now
   Discuss leg lesions with BMT.
   Thrombocytopenia
   keep > 50 for recent DAH and now oral bleeding
   Anemia
   Unclear why he did not bump appropriately to transfusions.  Could be
   alveolar hemorrhage; could be a sequestered bleeding site (e.g.
   retroperitoneal).  Will transfuse to HCT 25, Plt 50
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-5-7**] 03:47 PM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Dialysis Catheter - [**2167-5-7**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments: No oral care 2ndary to bleeding and packing.
   Communication: Patient discussed on interdisciplinary rounds  Comments:
    Discussed with BMT; discussed with his wife last night by overnight
   team, and we will talk with her again today.
   Code status: Full code
   Disposition :ICU
   Total time spent:  45 min
   Patient is critically ill

2167-05-09 07:13:00 Physician Resident Progress Note
Chief Complaint: 54M h/o MM s/p cord blood transplant admitted with
   hypoxic respiratory failure, CMV viremia (ganciclovir), fungal PPx
   (caspofungin), group B strep in BAL/bacteremia
   (cefepime/azithromycin/vancomycin).
   24 Hour Events:
   - [**5-8**] BAL
   - Echocardiogram: RV function unchanged
   - DIC labs negative
   - V/Q scan (prelim): PE negative
   - Vent: tolerated FiO2 100--> 80, tried 60% maintianed sats, so moved
   to 40%. the gas on this 7.44/37/48/26, so moved back to 60%. gas on
   this 7/4/42/68/27
   - Hydralazine 10mg x1 PRN
   - TPN: Add folic acid 4mg
   - BMT: Quantitate stool volumes
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2167-5-7**] 10:00 PM
   Cefipime - [**2167-5-8**] 04:13 PM
   Caspofungin - [**2167-5-8**] 08:02 PM
   Ciprofloxacin - [**2167-5-8**] 09:30 PM
   Gancyclovir - [**2167-5-9**] 12:30 AM
   Infusions:
   Fentanyl - 250 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Fentanyl - [**2167-5-8**] 04:14 PM
   Hydralazine - [**2167-5-8**] 04:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-5-9**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.3
   HR: 73 (67 - 84) bpm
   BP: 158/71(98) {112/63(77) - 187/85(122)} mmHg
   RR: 17 (12 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.7 kg (admission): 74.5 kg
   Height: 61 Inch
    CVP: 0 (-20 - 9)mmHg
   Total In:
                                                                  4,887 mL
                                                                    953 mL
   PO:
   TF:
   IVF:
                                                                  1,988 mL
                                                                    425 mL
   Blood products:
                                                                    949 mL
   Total out:
                                                                    555 mL
                                                                     16 mL
   Urine:
                                                                    175 mL
                                                                     16 mL
   NG:
                                                                    380 mL
   Stool:
   Drains:
   Balance:
                                                                  4,332 mL
                                                                    937 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   SpO2: 99%
   ABG: 7.39/42/68
   Ve: 13.9 L/min
   PaO2 / FiO2: 113
   Physical Examination
   Gen:
   HEENT:
   CV:
   Chest:
   Abd:
   Ext:
   Labs / Radiology
   28 K/uL
   9.5 g/dL
   125 mg/dL
   3.3 mg/dL
   25 mEq/L
   4.6 mEq/L
   114 mg/dL
   100 mEq/L
   135 mEq/L
   26.4 %
   2.2 K/uL
        [image002.jpg]  Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:6.3 mg/dL
                             [**2167-5-8**]  09:35 AM
                             [**2167-5-8**]  09:51 AM
                             [**2167-5-8**]  03:05 PM
                             [**2167-5-8**]  03:24 PM
                             [**2167-5-8**]  06:17 PM
                             [**2167-5-8**]  08:04 PM
                             [**2167-5-8**]  09:11 PM
                             [**2167-5-9**]  05:01 AM
                             [**2167-5-9**]  05:18 AM
                             [**2167-5-9**]  06:25 AM
   WBC
   3.2
   3.3
   2.2
   Hct
   24.5
   27.2
   26.4
   Plt
   41
   57
   28
   Cr
   2.5
   3.3
   TropT
   0.07
   TCO2
   26
   27
   26
   27
   25
   26
   Glucose
   109
   125
   Other labs: PT / PTT / INR:13.1/24.7/1.1, CK 332/ CKMB pending /
   Troponin-T pending, Fibrinogen:689 mg/dL, FDP 10-40, LDH: Pending
   Imaging: [**5-9**] CXR pending official read
   [**5-8**] BLE LENIs: No DVT
   [**5-8**] VQ scan (prelim, official still pending): No PE
   [**5-8**] echo: BV systolic fxn WNL
   Microbiology: [**5-8**] BAL: 2+ GPC pairs, chains, clusters;
   bacterial/viral/fungal cx pending; KOH pending
   [**5-7**] blood cx pending
   [**5-7**] urine cx pending
   [**5-7**] CDiff negative
   [**5-3**] CMV vl 752 copies/ml.
   Assessment and Plan
   54M h/o recurrent multiple myeloma s/p cord blood transplant admitted
   with hypoxic respiratory failure, bacteremia, intubated, on ganciclovir
   for CMV viremia, caspofungin for fungal PPx,
   cefepime/azithromycin/vancomycin for group B strep in BAL/bacteremia.
   # Hypoxia
   Significant worsening overnight.
   Increased O2 requirement.
   DAH (hct drop, no bump w/ transfustion) vs VAP vs PE.
   Overnight increased FiO2 and PEEP, w/ improvement.  NO report of major
   ET bleeding.
   NEG workup for DVT at legs and RUE so far.  OFF ppx.
   Will w/u ? PE w/ V/Q potentially.  Poor candidate for CTA.
   -          eval echo for r heart strain
   -          eval for PE
   -          cont broadened antibiotics for ? VAP w/ pseudomonal
   coverage, MRSA
   -          transfuse plts < 50 w/ ? DAH, hct < 25.
   -          Consider IV gtts heparin if large PE w/ studies
   -          Possible bronch if fio2 requirement improved in the PM
   -          Wean fio2 preferentially over PEEP
   # Hypotension / Bradycardia
   Likely due to brief episode of hypoxia.
   Also ? CNS lesion, bleeding.
   Likely related to first HD also.
   Sepsis also on ddx.
   Consider CT head for eval if downstairs for other studies.
   # Infection / ID
   ** ? New VAP.
   Also must consider DIC / systemic infection w/ petechial / macular
   rash.
   Cont cefepime, vancomycin, ciprofloxacin.
   **Group B strep bacteremia: TTE negative for vegetations; TEE deferred
   [**3-7**] bleeding risk
   - continue cefepime ? 10/14 days today, until [**5-13**] (unclear course w/ ?
   VAP)
   **PCP prophylaxis
   [**Name Initial (PRE) **] [**Name9 (PRE) 1569**] dapsone 100 mg daily given relatively low G6PD
   **CMV viremia: Continue gancyclovir, recheck viral loads weekly;
   unlikely causing lung / liver findings
   **Fungal PPx: Continue caspofungin
   # RENAL
   **ARF:
   Blood in urine.
   ? nephritis process.  Will send c+p ANCA, [**Doctor First Name 1205**], ant GBM for pulm / renal
   syndrome.
   Post HD catheter, and first HD yesterday.
   Will cont HD today.
   - Renal following
   **HTN
   W/ hypotension yesterday, will hold all antihypertensives.
   Hydral PRN.
   **Uremia: unclear etiology. Probably secondary to worsening renal
   function and GI bleeding.
   - platelet transusions
   - NO  DDAVP per heme
   ** I / O goal
   Even.   Will d/c lasix.
   # GVHD: LIVER
   LFTs stabilized.
   - Continue ursodiol, mycophenylate mofetil, solumedrol 40 mg [**Hospital1 **]
   # HEME / ONC
   ? TTP
   Will resolve post cyclosporine d/c; no need for pheresis.
   Cont monitor plt #.
   **Multiple myeloma s/p cord transplant: STABLE.  Continue management
   per BMT recs.
   - Continue mycophenylate mofetil, solumedrol,
   - Continue caspofungin for fungal ppx
   - BMT following
   **Anemia / Thrombocytopenia
   Transfusion goal, plt > 50, hct, drop > 5
    # Duodenitis: STABLE  Duodenitis per EGD.
   -  PPI
   -  Holding on Enterocort for gut inflammation, given inability to crush
   med for OG tube
   # Diabetes: STABLE.  Hyperglycemic with steroids.
   - Humalog insulin sliding scale with insulin in TPN
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-5-8**] 03:47 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Dialysis Catheter - [**2167-5-7**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-05-09 12:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2167-5-8**] 08:42 AM
 NUCLEAR MEDICINE - At [**2167-5-8**] 03:03 PM: no perfusion defect
 SPUTUM CULTURE - At [**2167-5-8**] 06:19 PM
   - DIC labs neg
   - TTE: no change to RV
   - Weaned FiO2 and he had low PaO2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2167-5-8**] 04:13 PM
   Caspofungin - [**2167-5-8**] 08:02 PM
   Ciprofloxacin - [**2167-5-8**] 09:30 PM
   Gancyclovir - [**2167-5-9**] 12:30 AM
   Vancomycin - [**2167-5-9**] 11:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Fentanyl - [**2167-5-8**] 04:14 PM
   Hydralazine - [**2167-5-8**] 04:14 PM
   Lansoprazole (Prevacid) - [**2167-5-9**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-5-9**] 12:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.4
   HR: 72 (66 - 84) bpm
   BP: 169/76(107) {112/63(77) - 187/85(122)} mmHg
   RR: 17 (12 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.7 kg (admission): 74.5 kg
   Height: 61 Inch
   CVP: 0 (-20 - 0)mmHg
   Total In:
                                                                  4,887 mL
                                                                  1,919 mL
   PO:
   TF:
   IVF:
                                                                  1,988 mL
                                                                    957 mL
   Blood products:
                                                                    949 mL
   Total out:
                                                                    555 mL
                                                                     16 mL
   Urine:
                                                                    175 mL
                                                                     16 mL
   NG:
                                                                    380 mL
   Stool:
   Drains:
   Balance:
                                                                  4,332 mL
                                                                  1,903 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.39/42/68/25/0
   Ve: 14.4 L/min
   PaO2 / FiO2: 113
   Physical Examination
   General Appearance: Diaphoretic
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, Paradoxical), (Breath
   Sounds: Crackles : diffusely, Wheezes : mild (upper>lower)), high work
   of breathing
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   28 K/uL
   125 mg/dL
   3.3 mg/dL
   25 mEq/L
   4.6 mEq/L
   114 mg/dL
   100 mEq/L
   135 mEq/L
   26.4 %
   2.2 K/uL
        [image002.jpg]
                             [**2167-5-8**]  09:35 AM
                             [**2167-5-8**]  09:51 AM
                             [**2167-5-8**]  03:05 PM
                             [**2167-5-8**]  03:24 PM
                             [**2167-5-8**]  06:17 PM
                             [**2167-5-8**]  08:04 PM
                             [**2167-5-8**]  09:11 PM
                             [**2167-5-9**]  05:01 AM
                             [**2167-5-9**]  05:18 AM
                             [**2167-5-9**]  06:25 AM
   WBC
   3.2
   3.3
   2.2
   Hct
   24.5
   27.2
   26.4
   Plt
   41
   57
   28
   Cr
   2.5
   3.3
   TropT
   0.07
   TCO2
   26
   27
   26
   27
   25
   26
   Glucose
   109
   125
   Other labs: PT / PTT / INR:13.1/24.7/1.1, CK / CKMB /
   Troponin-T:332/4/0.07, ALT / AST:181/149, Alk Phos / T Bili:261/11.4,
   Differential-Neuts:96.0 %, Band:4.0 %, Lymph:0.0 %, Mono:0.0 %, Eos:0.0
   %, Fibrinogen:689 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.7 g/dL,
   LDH:1185 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:6.3 mg/dL
   Imaging: CXR: increased hazy opacities througout the right lung.
   Microbiology: Sputum from [**5-8**]: 2+ GPC in pairs, chain and clusters (hx
   of group B strep)
   Assessment and Plan
   Assessment and Plan
   54-year-old man with multiple myeloma complicated by GVHD which is
   likely progressing and possibly involving the lungs, with respiratory
   failure requiring high levels of mech vent support, renal failure-
   dialysis dependent, transfusion-dependent thrombocytopenia (which is
   worse today), hemolyis, and continued depressed mental status. He has
   worsened over the last two days. Worsened opacification right lung.
   Respiratory Failure: Multifactorial
          Streptococcal (Group B) pneumonia with bacteremia which we
   are day #11 on ABX
          Obstructive Airways: COPD+/- developing obliterative
   bronchiolitis.
          Some alveolar hemorrhage complicating his other issues (Hct
   has been stable)
          He remains critically ill.
   o         Differential includes recurrent alveolar hemorrhage, new VAP,
   PE (based on CXR).
   o         CTA has been evaluated.  LENIs are negative. Reassuring that
   the perfusion scan was grossly normal.
   o         Cefipime monotherapy for GBS x 14d, per ID
   o         Cipro for coverage of a broader range of GNR
   o         Vanco to cover MRSA (empiric)
   o         He is on ganciclovir for possible CMV.  Follow weekly
   VL.        (discuss with onc)
   o         Regarding consideration of bronch, FiO2 now at 0.8. I think
   the benefit is outweighed by the risk at this point (suctioning at this
   point only for old blood).
   Vent management: he will need increased levels of PEEP (given either
   increased fluid: blood vs infection vs fluid, with fluid being most
   likely). He seems to have a PEEP responsive process.
   Goal PaO2 >55. Will try to HD (would like to effect a net neg state
   today, to get at whether his lungs are vol overloaded)
   Bacteremia (Beta Strep)
   -          Cefipime [**12-18**]
   -          Appreciate BMT
s help with titrating immunosuppression
   very challenging give his GVHD
   HTN:
   Hold antihypertensives.
   Acute Renal Failure: concering that he is now anuric ( since [**5-7**]). He
   may need CVHD
          DDx includes TTP (calcineurin-inhibitor-associated) and
   ATN.  Stopped offending meds
          Keep off calcineurin inhibitor
          He has some ongoing bleeding that may be partially a
   consequence of uremia.
          Now on hemodialysis.  [**Month (only) 60**] need to convert to CVVH today.
          Sent ANCA, [**Doctor First Name 1205**], anti-GBM all still pending
   Myeloma s/p transplant
   Graft vs. Host disease: LFTs stable.
   Continue to collaborate with BMT and ID regarding immunosuppression
   Continue steroids and MMF for now
   Thrombocytopenia
   keep > 50 for recent DAH and now oral bleeding. Will transfuse for Plts
   of 28 today.  His Hct seems to have been responding appropriately.
   Concerning for DIC, ? platelet antibody given multiple transfusions.
   Also consider splenomegaly (sequestration given underlying liver
   failure)
   Anemia
   Unclear why he did not bump appropriately to transfusions.  Could be
   alveolar hemorrhage; could be a sequestered bleeding site (e.g.
   retroperitoneal).  Will transfuse to HCT 25, Plt 50
   DIC workup (given petechial rash): negative so far.  Will cont to
   follow (coags normal)
   Other issues per ICU resident note.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-5-8**] 03:47 PM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Dialysis Catheter - [**2167-5-7**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2167-05-10 06:36:00 Physician Resident Progress Note
Chief Complaint: hypoxemia, arf
   24 Hour Events:
   - Renal: Rec'd UF today.  Vancomycin levels checked today post-HD.
   Started on aluminum hydroxide 30mg TID
   - BMT:  Does not believe that pt has TTP.  D/c ganciclovir because
   toxic to platelets.  Asked ID re: other PCP [**Name9 (PRE) **] meds.  Consult blood
   bank.
   - Blood Bank consult: Working to get HLA-matched platelets
   - ID: Will assess Foscarnet suitability for ongoing CMV viremia.
   Caspofungin changed to micafungin 100 mg Q24H.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2167-5-8**] 09:30 PM
   Gancyclovir - [**2167-5-9**] 12:30 AM
   Vancomycin - [**2167-5-9**] 11:00 AM
   Cefipime - [**2167-5-9**] 04:00 PM
   Caspofungin - [**2167-5-9**] 08:00 PM
   Ceftriaxone - [**2167-5-9**] 10:00 PM
   Micafungin - [**2167-5-10**] 02:30 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-5-9**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-5-10**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 81 (66 - 84) bpm
   BP: 162/73(100) {139/70(93) - 184/84(120)} mmHg
   RR: 17 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.7 kg (admission): 74.5 kg
   Height: 61 Inch
             Total In:
                                                                  4,199 mL
                                                                    756 mL
   PO:
             TF:
   IVF:
                                                                  1,833 mL
                                                                    262 mL
   Blood products:
                                                                    416 mL
   Total out:
                                                                  3,026 mL
                                                                      0 mL
   Urine:
                                                                     26 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,173 mL
                                                                    756 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 60%
   PIP: 29 cmH2O
   SpO2: 100%
   ABG: 7.47/35/64/27/1
   Ve: 13.4 L/min
   PaO2 / FiO2: 107
   Physical Examination
   Gen: sedated, intubated
   Heent: icteric sclerae, oral mucosal bleeding, intubated
   PUL: cta
   COR: nl s1s2 no mrg, rrr
   ABD: soft, mildly distended, no guarding, masses; guiac + stools
   DERM: scattered ecchymoses; lesions on inner L thigh transitioning to
   purple, dark macules
   Micro
   Gpc 2+ in deep endotracheal aspirate, OP flora growth.
   Labs / Radiology
   39 K/uL
   8.7 g/dL
   107 mg/dL
   2.6 mg/dL
   27 mEq/L
   4.2 mEq/L
   90 mg/dL
   97 mEq/L
   138 mEq/L
   23.6 %
   1.1 K/uL
        [image002.jpg]
                             [**2167-5-9**]  05:18 AM
                             [**2167-5-9**]  06:25 AM
                             [**2167-5-9**]  01:28 PM
                             [**2167-5-9**]  02:41 PM
                             [**2167-5-9**]  03:01 PM
                             [**2167-5-9**]  05:04 PM
                             [**2167-5-9**]  05:24 PM
                             [**2167-5-9**]  08:02 PM
                             [**2167-5-10**]  12:25 AM
                             [**2167-5-10**]  04:00 AM
   WBC
   1.6
   1.1
   Hct
   25.1
   23.6
   Plt
   39
   108
   39
   Cr
   2.6
   TCO2
   25
   26
   24
   26
   30
   31
   26
   Glucose
   107
   Other labs: PT / PTT / INR:12.9/22.0/1.1, CK / CKMB /
   Troponin-T:332/4/0.07, ALT / AST:164/157, Alk Phos / T Bili:379/10.4,
   Differential-Neuts:96.0 %, Band:4.0 %, Lymph:0.0 %, Mono:0.0 %, Eos:0.0
   %, Fibrinogen:770 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL,
   LDH:1247 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   54M h/o MM s/p cord blood transplant admitted with hypoxic respiratory
   failure, CMV viremia (ganciclovir), fungal PPx (caspofungin), group B
   strep in BAL/bacteremia (cefepime, ciprofloxacin, vancomycin), renal
   failure on HD.
    # Hypoxic respiratory failure:  DDx DAH v VAP v PE v GVHD/obliterative
   bronchiolitis, with underlying COPD.  Deep endotracheal aspirate
   growing GPC.  Not improving on vent settings / not tolerating weaning
   well.
   - PE: Unlikely given negative DVT, V/Q scan, echo.
   - VAP: Cefepime  d10 (group B strep, pseudomonas), ciprofloxacin d4
   (GNR), vancomycin d4 (MRSA); cont antibiotics
   - DAH: Transfuse plts<50 or ongoing bleeding, hct<25
   - Vent: Wean FiO2 before PEEP.  Increase PEEP to 16 and attempt
   decrease FiO2.
   # ARF with uremia:  ?Nephritis, ?pulmonary/renal syndrome; ?uremia from
   GI bleeding
   - cANCA, pANCA, [**Doctor First Name 1205**], anti-GBM pending
   - HD with goal fluid even
   - No DDAVP [**3-7**] HTN
   - Review renal recs
   # Thrombocytopenia: ? DIC v anti-platelet Ab v HLA-antibody v
   cyclosporine-induced TTP.  Fibrinogen decreasing but FDP negative; INR
   WNL.  Unlikely DIC.
   - Blood bank consulted for anti plt antibodies.
   - BMT following
    # CMV viremia
   Transition to foscarnet.
   Will dose 50mg/ kg after HD on HD days only.
   CHECK ionized Ca+2 4 hrs post dose and replete PRN.
   # PCP [**Name Initial (PRE) **]: Atovaquone.  Assessing possibility of other PCP [**Name9 (PRE) **] meds.
   # HTN:  restarting labetalol given return to HTN, + hydralazine prn
   # GVHD @ liver: LFTs improving slowly; check QOD
   - Ursodiol, mycophenylate mofetil, methylprednisolone 40 mg [**Hospital1 **]
   - OFF cyclosporin currently.
   # MM s/p cord transplant: STABLE.  Mycophenylate mofetil,
   methylprednisolone.
   - BMT following
   # PANCYTOPENIA / Anemia:
   Leukopenia: Likely med related, gancyclovir, ? sepsis.
   Anemia: Currrently STABLE.  Had been transfused end of last week for ?
   bleeding into lungs.
   Transfuse for hct drop > 5 / hct >25
   # Fungal ppx: STABLE.   Transitioned to micafungin to help w/ PLTS
   # Duodenitis: STABLE  Duodenitis per EGD.
   -  Lansoprazole
   -  Holding Enterocort for gut inflammation, given inability to crush
   med for OG tube
   # Diabetes: STABLE.
   - Insulin in TPN
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-5-9**] 03:34 PM 75 mL/hour
   Glycemic Control:  ssi
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Dialysis Catheter - [**2167-5-7**] 03:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: lansoprazole
   VAP:  mouth care on HOLD given oral bleeding, hob > 30 deg
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:icu

2167-05-10 09:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   HD yesterday
   Stopped gangciclovir (concern for toxicity)
   Blood bank working on HLA matching for plts
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2167-5-8**] 09:30 PM
   Gancyclovir - [**2167-5-9**] 12:30 AM
   Vancomycin - [**2167-5-9**] 11:00 AM
   Cefipime - [**2167-5-9**] 04:00 PM
   Caspofungin - [**2167-5-9**] 08:00 PM
   Ceftriaxone - [**2167-5-9**] 10:00 PM
   Micafungin - [**2167-5-10**] 02:30 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-5-10**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 75 (66 - 84) bpm
   BP: 169/74(104) {139/70(93) - 184/84(120)} mmHg
   RR: 17 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.7 kg (admission): 74.5 kg
   Height: 61 Inch
           Total In:
                                                                  4,199 mL
                                                                  1,298 mL
   PO:
           TF:
   IVF:
                                                                  1,833 mL
                                                                    304 mL
   Blood products:
                                                                    416 mL
                                                                    241 mL
   Total out:
                                                                  3,026 mL
                                                                      0 mL
   Urine:
                                                                     26 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,173 mL
                                                                  1,298 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 60%
   PIP: 32 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.47/35/64/27/1
   Ve: 13.6 L/min
   PaO2 / FiO2: 107
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: Pupils dilated, Sclera edema, icteric pupils
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), Right upper ext edematous
   Respiratory / Chest: (Expansion: Symmetric, Paradoxical), (Breath
   Sounds: Crackles : diffuse, Wheezes : occ)
   Abdominal: Distended, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, Rash: mac pap rash inner thighs
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   69 K/uL
   107 mg/dL
   2.6 mg/dL
   27 mEq/L
   4.2 mEq/L
   90 mg/dL
   97 mEq/L
   138 mEq/L
   23.6 %
   1.1 K/uL
        [image002.jpg]
                             [**2167-5-9**]  06:25 AM
                             [**2167-5-9**]  01:28 PM
                             [**2167-5-9**]  02:41 PM
                             [**2167-5-9**]  03:01 PM
                             [**2167-5-9**]  05:04 PM
                             [**2167-5-9**]  05:24 PM
                             [**2167-5-9**]  08:02 PM
                             [**2167-5-10**]  12:25 AM
                             [**2167-5-10**]  04:00 AM
                             [**2167-5-10**]  08:43 AM
   WBC
   1.6
   1.1
   Hct
   25.1
   23.6
   Plt
   39
   108
   39
   69
   Cr
   2.6
   TCO2
   26
   24
   26
   30
   31
   26
   Glucose
   107
   Other labs: PT / PTT / INR:12.9/22.0/1.1, CK / CKMB /
   Troponin-T:332/4/0.07, ALT / AST:164/157, Alk Phos / T Bili:379/10.4,
   Differential-Neuts:96.0 %, Band:4.0 %, Lymph:0.0 %, Mono:0.0 %, Eos:0.0
   %, Fibrinogen:770 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL,
   LDH:1376 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.7 mg/dL
   Imaging: CXR [**5-10**]: decrease infiltrates in right lung (likely vol, got
   HD yesterday).
   Microbiology: Endotracheal: 2+ gram pos cocci pairs, chains and
   clusters ([**5-8**])
   Assessment and Plan
   54-year-old man with multiple myeloma complicated by GVHD which is
   likely progressing and possibly involving the lungs, with respiratory
   failure requiring high levels of mech vent support, renal failure-
   dialysis dependent, transfusion-dependent thrombocytopenia, hemolyis,
   and continued depressed mental status. He is stable but critically ill
   from a ventilatory standpoint. . Worsened opacification right lung
   improved over past 24 hrs with HD.
   Respiratory Failure: Multifactorial
          Streptococcal (Group B) pneumonia with bacteremia which we
   are day #12 on ABX
          Obstructive Airways: COPD+/- developing obliterative
   bronchiolitis.
          Some alveolar hemorrhage complicating his other issues (Hct
   has been stable and only old blood from tube)
          He remains critically ill.
   o         Differential includes recurrent alveolar hemorrhage, new VAP,
   PE (based on CXR).
   o         CTA has been evaluated.  LENIs are negative. Reassuring that
   the perfusion scan was grossly normal.
   o         Cefipime monotherapy for GBS x 14d, per ID
   o         Cipro for coverage of a broader range of GNR
   o         Vanco to cover MRSA (empiric)
   o         Changing to foscarnet for possible CMV.  Follow weekly VL.
   (discuss with onc)
   Vent management: he will need increased levels of PEEP (given either
   increased fluid: blood vs infection vs fluid, with fluid being most
   likely and he improved with HD). He seems to have a PEEP responsive
   process.
   Goal PaO2 >55. His CXr seemed to improve with Hd, but his gas exchnage
   remains very impaired. Will trial PEEP of 16 and will check a gas (cant
   place a esoph balloon given plts)
   Bacteremia (Beta Strep)
   -          Cefipime [**1-17**]
   -          Appreciate BMT
s help with titrating immunosuppression
   very challenging give his GVHD
   HTN:
   Restart labetalol today for HTN (goal SBP 140 mm Hg)
   Acute Renal Failure: concering that he is now anuric ( since [**5-7**]). He
   may need CVHD
          DDx includes TTP (calcineurin-inhibitor-associated) and
   ATN.  Stopped offending meds
          Keep off calcineurin inhibitor
          He has some ongoing bleeding that may be partially a
   consequence of uremia (unfortunately bleeding orally again with plts >
   50, may need to repack mouth)
          Now on hemodialysis (tolerated well yesterday)
          Sent ANCA, [**Doctor First Name 1205**], anti-GBM all still pending
   Myeloma s/p transplant
   Graft vs. Host disease: LFTs stable (bili 10.4 today)
   Continue to collaborate with BMT and ID regarding immunosuppression
   Continue steroids and MMF for now
   Thrombocytopenia
   keep > 50 for recent DAH and now oral bleeding. He has been havning
   diminished response to transfusion (? anti platelet antibody,
   sequestering, HLA Abs, TTP, DIC) work up pendiing. Blood bank aware,
   plt Ab pending. Cont to transfuse as he is actively bleeding in the
   mouth.
   Neutropenai: worsened over past few days, unclear etiology. Will
   discuss with BMT (f/u differential)
   Anemia
   Hct bumped appropriately (but was a delayed response).  Will transfuse
   to HCT 25, Plt 50
   DIC workup (given petechial rash): negative so far.  Will cont to
   follow (coags normal)
   Prophylaxis: changed to micafungin for prophylaxis per BMT.
   Other issues per ICU resident note.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-5-9**] 03:34 PM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Dialysis Catheter - [**2167-5-7**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments: mouth care on hold given bleeding.
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2167-05-11 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2167-5-8**] 09:30 PM
   Gancyclovir - [**2167-5-9**] 12:30 AM
   Vancomycin - [**2167-5-9**] 11:00 AM
   Caspofungin - [**2167-5-9**] 08:00 PM
   Ceftriaxone - [**2167-5-9**] 10:00 PM
   Cefipime - [**2167-5-10**] 04:10 PM
   Micafungin - [**2167-5-11**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-5-11**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.4
   HR: 73 (67 - 81) bpm
   BP: 149/77(104) {146/69(94) - 181/82(115)} mmHg
   RR: 16 (9 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.7 kg (admission): 74.5 kg
   Height: 61 Inch
             Total In:
                                                                  4,269 mL
                                                                  1,023 mL
   PO:
             TF:
   IVF:
                                                                  1,422 mL
                                                                    449 mL
   Blood products:
                                                                    847 mL
   Total out:
                                                                    538 mL
                                                                    310 mL
   Urine:
                                                                     38 mL
                                                                     10 mL
   NG:
                                                                    400 mL
   Stool:
                                                                    100 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                  3,731 mL
                                                                    713 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 6
   PEEP: 16 cmH2O
   FiO2: 70%
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 96%
   ABG: 7.39/46/80.[**Numeric Identifier 248**]/24/1
   Ve: 11.7 L/min
   PaO2 / FiO2: 114
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   53 K/uL
   8.9 g/dL
   120 mg/dL
   3.7 mg/dL
   24 mEq/L
   4.7 mEq/L
   132 mg/dL
   95 mEq/L
   137 mEq/L
   24.5 %
   1.3 K/uL
        [image002.jpg]
                             [**2167-5-10**]  12:25 AM
                             [**2167-5-10**]  04:00 AM
                             [**2167-5-10**]  08:43 AM
                             [**2167-5-10**]  12:24 PM
                             [**2167-5-10**]  03:37 PM
                             [**2167-5-10**]  08:12 PM
                             [**2167-5-10**]  08:18 PM
                             [**2167-5-10**]  11:48 PM
                             [**2167-5-11**]  03:09 AM
                             [**2167-5-11**]  03:20 AM
   WBC
   1.1
   1.1
   1.3
   1.3
   Hct
   23.6
   23.2
   26.4
   24.5
   Plt
   39
   69
   40
   97
   53
   Cr
   2.6
   3.7
   TCO2
   26
   30
   29
   28
   29
   Glucose
   107
   120
   Other labs: PT / PTT / INR:12.9/23.8/1.1, CK / CKMB /
   Troponin-T:332/4/0.07, ALT / AST:162/127, Alk Phos / T Bili:405/10.3,
   Amylase / Lipase:33/16, Differential-Neuts:84.0 %, Band:8.0 %,
   Lymph:4.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:770 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:1304 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:7.0 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-5-10**] 03:21 PM 74.[**Telephone/Fax (5) 2001**] mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Dialysis Catheter - [**2167-5-7**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-05-11 15:18:00 Physician Resident Progress Note
Chief Complaint: 55M with MM s/p cord blood transplant transferred to
   [**Hospital Unit Name 44**] with hypoxemia and ARF
   24 Hour Events:
   Continues to have oral bleeding and peri-rectal bleeding requiring
   rectal tube placement
   Desat during re-positioning.
   Peep increased to 16, without significant improvement, Fi02 transiently
   increased to 80, decreased to 70%
   ID recs switch CMV tx to foscarnet from ganciclovir, to be dosed with
   HD.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2167-5-8**] 09:30 PM
   Gancyclovir - [**2167-5-9**] 12:30 AM
   Vancomycin - [**2167-5-9**] 11:00 AM
   Caspofungin - [**2167-5-9**] 08:00 PM
   Ceftriaxone - [**2167-5-9**] 10:00 PM
   Cefipime - [**2167-5-10**] 04:10 PM
   Micafungin - [**2167-5-11**] 04:00 AM
   Atovaquone - [**2167-5-11**] 08:05 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-5-11**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-5-11**] 03:17 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 87 (67 - 92) bpm
   BP: 174/80(113) {137/69(94) - 174/80(113)} mmHg
   RR: 12 (9 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.7 kg (admission): 74.5 kg
   Height: 61 Inch
           Total In:
                                                                  4,269 mL
                                                                  2,881 mL
   PO:
           TF:
   IVF:
                                                                  1,422 mL
                                                                    979 mL
   Blood products:
                                                                    847 mL
                                                                    574 mL
   Total out:
                                                                    538 mL
                                                                    317 mL
   Urine:
                                                                     38 mL
                                                                     17 mL
   NG:
                                                                    400 mL
   Stool:
                                                                    100 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                  3,731 mL
                                                                  2,564 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 16 cmH2O
   FiO2: 70%
   PIP: 30 cmH2O
   Plateau: 28 cmH2O
   SpO2: 94%
   ABG: 7.42/40/58/24/0
   Ve: 13.4 L/min
   PaO2 / FiO2: 83
   Physical Examination
   Gen: Intubated, deeply sedated
   HEENT: sclera icteric, fresh clot in OP, intubated, OGT in place, MM
   dry
   NECK: right HD line c/d/i
   COR: RRR, no MRG
   PULM: coarse mechanical BS
   ABD: hypoactive BS, soft, no guarding
   Ext: anasarca, marked RUE pitting edema. Distal pulses palpable,
   pneumoboots in place.
   Skin: macules on inner thigh, unchanged. Diffuse ecchymoses.
   Neurologic: Deeply sedated
   Labs / Radiology
   63 K/uL
   8.9 g/dL
   120 mg/dL
   3.7 mg/dL
   24 mEq/L
   4.7 mEq/L
   132 mg/dL
   95 mEq/L
   137 mEq/L
   24.5 %
   1.3 K/uL
        [image002.jpg]
                             [**2167-5-10**]  12:24 PM
                             [**2167-5-10**]  03:37 PM
                             [**2167-5-10**]  08:12 PM
                             [**2167-5-10**]  08:18 PM
                             [**2167-5-10**]  11:48 PM
                             [**2167-5-11**]  03:09 AM
                             [**2167-5-11**]  03:20 AM
                             [**2167-5-11**]  11:01 AM
                             [**2167-5-11**]  01:11 PM
                             [**2167-5-11**]  01:39 PM
   WBC
   1.3
   1.3
   Hct
   26.4
   24.5
   Plt
   40
   97
   53
   63
   Cr
   3.7
   TCO2
   30
   29
   28
   29
   28
   27
   Glucose
   120
   Other labs: PT / PTT / INR:12.9/23.8/1.1, CK / CKMB /
   Troponin-T:332/4/0.07, ALT / AST:162/127, Alk Phos / T Bili:405/10.3,
   Amylase / Lipase:33/16, Differential-Neuts:92.0 %, Band:0.0 %,
   Lymph:4.0 %, Mono:2.0 %, Eos:1.0 %, Fibrinogen:770 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:1304 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:7.0 mg/dL
   Micro:
   BAL [**5-8**]: 2+ PMNs, 2+ GPCs, >100,000 OP flora
   Urine Cx [**5-11**] pending
   Blood cultures 4/3 pending
   Assessment and Plan
   54M h/o MM s/p cord blood transplant admitted with hypoxic respiratory
   failure, CMV viremia (ganciclovir), fungal PPx (caspofungin), group B
   strep in BAL/bacteremia (cefepime, ciprofloxacin, vancomycin), renal
   failure on HD.
    # Hypoxic respiratory failure:  DDx DAH v VAP v PE v GVHD/obliterative
   bronchiolitis, with underlying COPD.  Deep endotracheal aspirate
   growing GPC.  Not improving on vent settings / not tolerating weaning
   well.
   - PE: Unlikely given negative DVT, V/Q scan, echo.
   - VAP: Cefepime  d13 (group B strep, pseudomonas), ciprofloxacin d5
   (GNR), vancomycin d5(MRSA); cont antibiotics. If no improvement in
   hypoximia by tomorrow, consider repeat bronch.
   - DAH: Transfuse plts<50 or ongoing bleeding, hct<25, will transfuse 1
   unit PRBCs and 1 unit platelets today as pt is actively bleeding from
   perirectal area and OP.
   - Vent: did not respond significantly to increase in PEEP yesterday,
   will wean down, given underlying emphesematous change on CT want to
   avoid barotrauma. Repeat ABG. Attempt to wean sedation today.
   # ARF with uremia:  ?Nephritis, ?pulmonary/renal syndrome; ?uremia from
   GI bleeding
   - cANCA, pANCA, [**Doctor First Name 1205**], anti-GBM pending
   - HD with goal fluid even, HD today
   - No DDAVP [**3-7**] HTN
   - Review renal recs
   # Thrombocytopenia: ? DIC v anti-platelet Ab v HLA-antibody v
   cyclosporine-induced TTP.  Fibrinogen decreasing but FDP negative; INR
   WNL.  Unlikely DIC.
   - Blood bank consulted for anti plt antibodies.
   - BMT following
   -transfuse platelets as above
    # CMV viremia
   Transition to foscarnet today with HD
   Will dose 50mg/ kg after HD on HD days only.
   CHECK ionized Ca+2 4 hrs post dose and replete PRN.
   # PCP [**Name Initial (PRE) **]: Atovaquone.  Assessing possibility of other PCP [**Name9 (PRE) **] meds.
   # HTN:  restarting labetalol given return to HTN, + hydralazine prn
   # GVHD @ liver: LFTs improving slowly; check QOD
   - Ursodiol, mycophenylate mofetil, methylprednisolone 40 mg [**Hospital1 **]
   - OFF cyclosporin currently.
   # MM s/p cord transplant: STABLE.  Mycophenylate mofetil,
   methylprednisolone.
   - BMT following
   # PANCYTOPENIA / Anemia:
   Leukopenia: Likely med related, gancyclovir, very concerning for
   sepsis, below baseline of ~3 with 8% bands. Given low grade fever o/n
   will repeat blood, urine and stool culture.
   Anemia: Transfusion criteria: HCT <25, >5pt drop, active bleeding.
   Transfuse today for bleed + HCT <25.
   # Fungal ppx: STABLE.   Transitioned to micafungin to help w/ PLTS
   # Duodenitis: STABLE  Duodenitis per EGD.
   -  Lansoprazole
   -  Holding Enterocort for gut inflammation, given inability to crush
   med for OG tube
   #OP bleed: Pt has been having slow bleed in oropharynx likely due to
   trauma s/p intubation. F/u ENT recs for continued clots, ? repeat
   packing.
   # Diabetes: STABLE.
   - Insulin in TPN
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-5-10**] 03:21 PM 74.[**Telephone/Fax (5) 2001**] mL/hour
   Glycemic Control:Insulin in TPN
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Dialysis Catheter - [**2167-5-7**] 03:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Lansoprazole
   VAP:  mouth care on hold for oral bleeding, HOB >30 degrees
   Comments:
   Communication:  Comments:
   Code status: Full code, needs family meeting
   Disposition:ICU

2167-05-12 08:03:00 Physician Resident Progress Note
Chief Complaint: 54M with MM, s/p cord blood transplant [**1-10**],
   complicated hospital course with hypoxemia, CMV viremia, transfusion
   dependent.
   24 Hour Events:
 BLOOD CULTURED - At [**2167-5-11**] 01:35 PM
 BLOOD CULTURED - At [**2167-5-11**] 01:36 PM
 URINE CULTURE - At [**2167-5-11**] 01:36 PM
 STOOL CULTURE - At [**2167-5-11**] 01:36 PM
   - HD today; also received dose of vanc per HD protocol, started
   foscarnet
   - had episode of difficulty holding sats; peep/fio2 increased, then
   started to wean back down again.
   - [**Location (un) **] spoke to wife; DNR not discussed, but wife realizing patient not
   doing well
   - pan cultured
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2167-5-9**] 08:00 PM
   Ceftriaxone - [**2167-5-9**] 10:00 PM
   Atovaquone - [**2167-5-11**] 08:05 AM
   Cefipime - [**2167-5-11**] 04:50 PM
   Vancomycin - [**2167-5-11**] 10:00 PM
   Ciprofloxacin - [**2167-5-11**] 10:28 PM
   Foscarnet - [**2167-5-12**] 01:00 AM
   Micafungin - [**2167-5-12**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-5-11**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-5-12**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.9
   HR: 69 (69 - 92) bpm
   BP: 152/69(96) {126/69(92) - 179/95(122)} mmHg
   RR: 24 (9 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.7 kg (admission): 74.5 kg
   Height: 61 Inch
             Total In:
                                                                  4,752 mL
                                                                  1,074 mL
   PO:
             TF:
   IVF:
                                                                  1,785 mL
                                                                    413 mL
   Blood products:
                                                                    797 mL
   Total out:
                                                                  3,017 mL
                                                                      0 mL
   Urine:
                                                                     17 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  1,735 mL
                                                                  1,074 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 1
   PEEP: 16 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%
   PIP: 38 cmH2O
   Plateau: 24 cmH2O
   SpO2: 95%
   ABG: 7.42/41/91/26/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 130
   Physical Examination
   Gen: Intubated, sedated
   HEENT:mouth packing, intubated, OGT in place. No active OP bleeding.
   Sclera icteric
   Neck: HD catheter CDI
   Cor: RRR, no MRG
   Lungs: Coarse  mechanical BS, good air exchange
   Abd: minimal distention, +hypoactive BS, no guarding
   Ext: RUE significant pitting edema, mildly worse than yesterday. b/l 1+
   LE pitting edema. Right 3^rd toe with eschar, purulent drainage.
   Skin: jaundice, increased pigmentation Head and neck.  Thigh ecchymoses
   unchanged.
   Neuro: intubated, sedated.
   Labs / Radiology
   58 K/uL
   8.8 g/dL
   137 mg/dL
   2.7 mg/dL
   26 mEq/L
   4.3 mEq/L
   88 mg/dL
   99 mEq/L
   140 mEq/L
   24.4 %
   1.2 K/uL
        [image002.jpg]
                             [**2167-5-11**]  03:20 AM
                             [**2167-5-11**]  11:01 AM
                             [**2167-5-11**]  01:11 PM
                             [**2167-5-11**]  01:39 PM
                             [**2167-5-11**]  04:44 PM
                             [**2167-5-11**]  06:11 PM
                             [**2167-5-11**]  06:29 PM
                             [**2167-5-11**]  08:51 PM
                             [**2167-5-11**]  11:21 PM
                             [**2167-5-12**]  02:36 AM
   WBC
   1.2
   1.2
   Hct
   25.9
   24.4
   Plt
   63
   47
   82
   58
   Cr
   2.7
   TCO2
   29
   28
   27
   25
   25
   27
   Glucose
   137
   Other labs: PT / PTT / INR:13.0/22.6/1.1, CK / CKMB /
   Troponin-T:332/4/0.07, ALT / AST:162/127, Alk Phos / T Bili:405/10.3,
   Amylase / Lipase:33/16, Differential-Neuts:92.0 %, Band:0.0 %,
   Lymph:4.0 %, Mono:2.0 %, Eos:1.0 %, Fibrinogen:770 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:1304 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.8 mg/dL
   Micro: [**5-12**] toe swab, pending
   [**5-11**] CMV viral load pending, [**5-3**] CMV viral load  752
   [**5-11**] blood culture 2 sets pending, no growth to date
   [**5-11**] urine culture, no growth to date, UA negative for infection
   [**5-8**] BAL, no growth, PCP [**Name9 (PRE) 2034**] pending
   [**Name9 (PRE) **] data:
   Anti-GBM pending
   [**Doctor First Name 1205**] negative
   ANCA negative
   B-glucan pending
   Galactomannin pending
   Assessment and Plan
   54M h/o MM s/p cord blood transplant admitted with hypoxic respiratory
   failure, CMV viremia (ganciclovir), fungal PPx (caspofungin), group B
   strep in BAL/bacteremia (cefepime, ciprofloxacin, vancomycin), renal
   failure on HD.
    # Hypoxic respiratory failure:  DDx DAH v VAP v PE v GVHD/obliterative
   bronchiolitis, with underlying COPD.  Deep endotracheal aspirate
   growing GPC.  Not improving on vent settings / not tolerating weaning
   well.
   - PE: Unlikely given negative DVT, V/Q scan, echo.
   - VAP: Cefepime  d14 (group B strep, pseudomonas) last day today,
   ciprofloxacin d6 (GNR), vancomycin d6(MRSA); cont other antibiotics.
   D/w BMT team re ? CT chest to eval for nodules suspicious for
   aspergillosis, if so would consider bronch.  B-glucan, galactomannan
   pending.
   - DAH: Transfuse plts<50 or ongoing bleeding, hct<25
   - Vent: Had hypoxia yesterday requiring increase in Fi02 to 100% with
   PEEP 16, now back down to 70%, oxygenating.  Will continue to monitor.
   If worsens, ? high dose steroids.
   # ARF with uremia:  ?Nephritis, ?pulmonary/renal syndrome; ?uremia from
   GI bleeding
   - cANCA, pANCA, [**Doctor First Name 1205**] negative, anti-GBM pending
   - HD with goal fluid even, HD yesterday, -3L, pt still fluid positive
   yesterday.
   - No DDAVP [**3-7**] HTN
   - Review renal recs, discuss add
l dialysis for fluid even status (esp
   as pt is hypotensive)
   # Thrombocytopenia: ? DIC v anti-platelet Ab v HLA-antibody v
   cyclosporine-induced TTP.  Fibrinogen decreasing but FDP negative; INR
   WNL.  Unlikely DIC. Responded to plt tx yesterday with increase from 47
   to 82.  Now back to 58.  Will hold off on transfusing platelets as is
   not actively bleeding.
   - Blood bank consulted for anti plt antibodies.
   - BMT following
   -transfuse platelets as above (<50)
    # CMV viremia
   Transition to foscarnet yesterday with HD
   Will dose 50mg/ kg after HD on HD days only.
   At risk for electrolyte abnormalities (hypocalcemia, hypokalemia,
   hypophosphatemia, hypomagnesemia), continue to monitor peri-dosing and
   replete PRN.
   # PANCYTOPENIA / Anemia:
   Leukopenia: Likely med related, gancyclovir (has been switched to
   foscarnet), very concerning for sepsis, below baseline of ~3 with 8%
   bands on yesterday
s diff, still with significant left shift today.
   Cultured yesterday for low grade fevers.  No growth to date.
   -f/u cultures
   -continue antibiotics
   Anemia: Transfusion criteria: HCT <25, >5pt drop, active bleeding.
   Transfuse today for  HCT <25.
   # Toe infection: on exam had purulent right 3^rd toe wound.
   -podiatry c/s appreciated.  Wound gently debrided, appears to track to
   bone, suspicious for osteo.  Deep would cultures obtained.
   -dampt to try dsg change
   -continue broad abx, esp vanc.
   -await podiatry c/s staffing, ? OR an option for toe removal.  This
   could likely be cause for leukopenia.
   # HTN:  labetalol given HTN, + hydralazine prn
   # GVHD @ liver: LFTs improving slowly; check QOD, tomorrow.
   - Ursodiol, mycophenylate mofetil, methylprednisolone 40 mg [**Hospital1 **]
   - OFF cyclosporin currently.
   # MM s/p cord transplant: STABLE.  Mycophenylate mofetil,
   methylprednisolone.
   - BMT following
   # PCP [**Name Initial (PRE) **]: Atovaquone.  PCP [**Name9 (PRE) 2034**] pending from [**5-8**] BAL.
   # Fungal ppx: Transitioned to micafungin to help w/ PLTS
   # Duodenitis: STABLE  Duodenitis per EGD.
   -  Lansoprazole
   -  Holding Enterocort for gut inflammation, given inability to crush
   med for OG tube
   #OP bleed: Pt has been having slow bleed in oropharynx likely due to
   trauma s/p intubation. Appreciate ENT involvement, packed bleeding left
   cheek yesterday, plan Q2-3 day re-packing. Avoid chlorhexidine for now.
   # Diabetes: STABLE.
   - Insulin in TPN
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-5-11**] 06:30 PM 74.[**Telephone/Fax (5) 2001**] mL/hour
   Glycemic Control:  Insulin in TPN
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Dialysis Catheter - [**2167-5-7**] 03:00 PM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer: Lansoprazole
   VAP:  chlorhexadine on hold for OP bleeding.
   Comments:
   Communication:  Comments:
   Code status: Full code, readdress with family.
   Disposition: ICU

2167-05-13 06:54:00 Physician Resident Progress Note
Chief Complaint: 55m with MM s/p cord blood transplant [**1-10**]
   complicated hospital course with GVHD, hypoxemia, CMV viremia, ARF,
   transfusion depended, >200 total units of PRBCs and Platelets
   transfused to date.
   24 Hour Events:
   -d/c'd cefepime, completed 14 days
   -CT chest on hold per BMT/att discussion
   -disynchronous with vent/overbreathing, sedation increased
   -Received 1 unit PRBCs/2 units FFP.
   -podiatry (re)consulted for right 4th toe ulcer, apparently had been
   consulted in [**Month (only) 735**] at that time Xray negative, swab negative, was
   superficial. Now probes to bone, deep wound culture growing 2+GPCs in
   pairs/clusters, Xray c/w osteo.  To staff in am, decision re amputation
   vs bedside tx. Recs damp to dry dsg change, continue vanc.
   -coffee ground NGT aspirate (not new)
   -did not tolerate change in vent settings
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Atovaquone - [**2167-5-11**] 08:05 AM
   Cefipime - [**2167-5-11**] 04:50 PM
   Vancomycin - [**2167-5-11**] 10:00 PM
   Foscarnet - [**2167-5-12**] 01:00 AM
   Ciprofloxacin - [**2167-5-12**] 11:30 PM
   Micafungin - [**2167-5-13**] 05:00 AM
   Infusions:
   Fentanyl - 400 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2167-5-12**] 09:00 PM
   Midazolam (Versed) - [**2167-5-12**] 11:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: intubated, sedated
   Flowsheet Data as of  [**2167-5-13**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 68 (63 - 77) bpm
   BP: 147/69(92) {145/67(92) - 177/86(114)} mmHg
   RR: 28 (14 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.7 kg (admission): 74.5 kg
   Height: 61 Inch
             Total In:
                                                                  4,397 mL
                                                                  1,191 mL
   PO:
             TF:
   IVF:
                                                                  1,643 mL
                                                                    561 mL
   Blood products:
                                                                    791 mL
   Total out:
                                                                    130 mL
                                                                    440 mL
   Urine:
                                                                     10 mL
   NG:
                                                                    120 mL
                                                                     40 mL
   Stool:
   400 mL
   Drains:
   Balance:
                                                                  4,267 mL
                                                                    751 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 43 cmH2O
   Plateau: 32 cmH2O
   SpO2: 94%
   ABG: 7.34/47/61//0
   Ve: 14.6 L/min
   PaO2 / FiO2: 76
   Physical Examination
   Gen: Intubated, sedated
   HEENT: blood soaked packing in OP, rust colored secretions in ET tube,
   sclera icteric
   Neck: HD line in place, c/d/i
   Cor: RRR, no MRG
   Lungs:  diminished BS, coarse
   Abd: increased distention, +BS
   Ext: Anasarca, RUE tense/weeping edema unchanged. Right 4^th toe
   wrapped, prominent DP pulses palpable
   Neuro: intubated, sedated, occ breathing over vent
   Skin:  increased pigmentation face/chest, jaundiced, unchanged
   ecchymosis on inner thighs
   Labs / Radiology
   64 K/uL
   9.4 g/dL
   137 mg/dL
   2.7 mg/dL
   26 mEq/L
   4.3 mEq/L
   88 mg/dL
   99 mEq/L
   140 mEq/L
   26.0 %
   1.1 K/uL
        [image002.jpg]
                             [**2167-5-11**]  08:51 PM
                             [**2167-5-11**]  11:21 PM
                             [**2167-5-12**]  02:36 AM
                             [**2167-5-12**]  08:24 AM
                             [**2167-5-12**]  06:46 PM
                             [**2167-5-12**]  06:49 PM
                             [**2167-5-13**]  12:00 AM
                             [**2167-5-13**]  12:23 AM
                             [**2167-5-13**]  01:34 AM
                             [**2167-5-13**]  06:12 AM
   WBC
   1.2
   1.1
   Hct
   24.4
   26.0
   Plt
   82
   58
   29
   64
   Cr
   2.7
   TCO2
   27
   29
   29
   26
   26
   26
   Glucose
   137
   Other labs: PT / PTT / INR:13.0/22.6/1.1, CK / CKMB /
   Troponin-T:332/4/0.07, ALT / AST:162/127, Alk Phos / T Bili:405/10.3,
   Amylase / Lipase:33/16, Differential-Neuts:92.0 %, Band:0.0 %,
   Lymph:4.0 %, Mono:2.0 %, Eos:1.0 %, Fibrinogen:770 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:1304 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.8 mg/dL
   Fluid analysis / Other labs: [**Doctor First Name 1205**], ANCA negative
   B-glucan, galactomannan pending
   Imaging: Right foot imaging [**5-12**]:
   IMPRESSION: Resorption of the tuft of the fourth toe and resorption
   along the
   lateral base of the fourth distal phalanx with overlying soft tissue
   swelling
   highly suspicious for osteomyelitis. Clinical correlation is
   requested.
   Findings were communicated to the Radiology dashboard.
   Microbiology: Right toe deep culture/gram stain:
   culture pending
   2+ PMNs
   2+ GPCs in pairs and clusters
   CMV viral load pending
   C. diff negative [**5-11**], no other new culture data
   Assessment and Plan
   54M h/o MM s/p cord blood transplant admitted with hypoxic respiratory
   failure, CMV viremia (ganciclovir), fungal PPx (caspofungin), group B
   strep in BAL/bacteremia (cefepime, ciprofloxacin, vancomycin), renal
   failure on HD.
    # Hypoxic respiratory failure:  DDx DAH v VAP v PE v GVHD/obliterative
   bronchiolitis, with underlying COPD.  Deep endotracheal aspirate
   growing GPC.  CXR worse, more hypoxic.  No HD yesterday, 4L positive.
   - PE: Unlikely given negative DVT, V/Q scan, echo.
   - VAP: Cefepime   14 day course completed [**5-12**] , ciprofloxacin d7 (GNR),
   vancomycin d7(MRSA coverage); cont other antibiotics. No evidence on
   serology for aspergillosis, no nodular findings on imaging to suggest
   aspergillosis. Hold of voriconazole/amphotericin for now given high
   degree of toxicity with these medications and no data for clear
   aspergillosis.  Pt unlikely to tolerate [**Last Name (un) 1340**].
    No evidence inflammatory process that would benefit from increasing
   fluids
   - DAH: Transfuse plts<50 or ongoing bleeding, hct<25
   - Vent: Had hypoxia yesterday requiring increase in Fi02 to 80% with
   PEEP 16.
   -d/w renal aggressive HD today, given pt
s hypertension, hopefully
   would tolerate high UF removal.
   # ARF with uremia:  ?Nephritis, ?pulmonary/renal syndrome; ?uremia from
   GI bleeding
   - cANCA, pANCA, [**Doctor First Name 1205**] negative, anti-GBM pending
   - No HD yesterday, 4L positive.
   - No DDAVP [**3-7**] HTN
   - Review renal recs, discuss add
l dialysis for fluid even status (esp
   as pt is hypertensive)
   # Thrombocytopenia: Responding to transfusion.  Tx platelets <50, or if
   active bleeding.
   - Blood bank consulted for anti plt antibodies, no evidence for this as
   pt responding to tx, should only be ordered if considering ITP,
   appropriate test would be PRA
   - BMT following
    # CMV viremia. VL trending down, most recent pending.
   Transition to foscarnet [**5-11**]  with HD
   Will dose 50mg/ kg after HD on HD days only.
   At risk for electrolyte abnormalities (hypocalcemia, hypokalemia,
   hypophosphatemia, hypomagnesemia), continue to monitor peri-dosing and
   replete PRN.
   # PANCYTOPENIA / Anemia:
   Leukopenia: Likely med related, gancyclovir (has been switched to
   foscarnet), very concerning for sepsis, with left shift, concerning as
   pt has active osteomyelitis. (see below)
   -f/u cultures
   -continue antibiotics  (completed cefepime, now on caspo, vanc, cipro)
   Anemia: Transfusion criteria: HCT <25, >5pt drop, active bleeding.
   # Toe infection: on exam had purulent right 4rd toe wound.
   -podiatry c/s appreciated.  Wound gently debrided, appears to track to
   bone, suspicious for osteo.  Deep would cultures obtained, pending,
   gram stain with GPC in pairs and clusters
   -damp to dry dsg change
   -continue broad abx, esp vanc.
   -await podiatry c/s staffing, ? OR an option for toe removal.  This
   could likely be cause for leukopenia.
   # HTN:  labetalol given HTN, + hydralazine prn, HD today
   # GVHD @ liver: LFTs improving slowly; check QOD, tomorrow.  Bili
   increasing
   - Ursodiol, mycophenylate mofetil, methylprednisolone 40 mg [**Hospital1 **], no
   plans to decrease steroids in setting of increasing bilirubin.
   - OFF cyclosporin currently.
    #OP bleed: Pt has been having slow bleed in oropharynx likely due to
   trauma s/p intubation. Appreciate ENT involvement, packed bleeding left
   cheek [**5-11**], plan Q2-3 day re-packing. Avoid chlorhexidine for now.
   Touch base with ENT today re: packing.
   # MM s/p cord transplant: STABLE.  Mycophenylate mofetil,
   methylprednisolone.
   - BMT following, d/w them family meeting plans given pts near 100%
   mortality
   # PCP [**Name Initial (PRE) **]: Atovaquone.  PCP [**Name9 (PRE) 2034**] pending from [**5-8**] BAL.
   # Fungal ppx: Transitioned to micafungin to help w/ PLTS
   # Duodenitis: STABLE  Duodenitis per EGD.
   -  Lansoprazole
   -  Holding Enterocort for gut inflammation, given inability to crush
   med for OG tube
   # Diabetes: STABLE.
   - Insulin in TPN
   ICU Care
   Nutrition:  TPN
   TPN w/ Lipids - [**2167-5-12**] 07:30 PM 74.[**Telephone/Fax (5) 2001**] mL/hour
   Glycemic Control:  ISS
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Dialysis Catheter - [**2167-5-7**] 03:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Lansoprazole
   VAP:  holding chlorhexidine for OP bleed
   Comments:
   Communication:  Comments:
   Code status: Full code, confirmed
   Disposition:ICU

2167-05-14 07:58:00 Physician Resident Progress Note
Chief Complaint: 54M with MM s/p cord blood transplant [**1-10**] with
   complicated hospital course with GVHD, CMV viremia, hypoxic respiratory
   failure, renal failure, osteomyelitis, transfusion dependent
   24 Hour Events:
   - Started on ambisome per BMT/ID, also started on Cefepime
   - Aggressive HD today to remove fluid - some hypotension with dialysis
   (per nurse, about 3 L off with goal of 4 but sbp down to 80s), no
   improvement in respiratory status - anticipate CVVH tomorrow
   - Slightly discordant breathing on vent, ? clot in ETT?
   - CMV VL 707
   - Platelets down to 30, tx 2 units platelets
   - Per ENT, oral packing to be changed today ([**5-14**]), packing dry and
   blood soaked so will likely lead to more bleeding when removed
   - Desats in am [**5-14**], FiO2 increased to 90%, repeat gas pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Atovaquone - [**2167-5-11**] 08:05 AM
   Cefipime - [**2167-5-11**] 04:50 PM
   Vancomycin - [**2167-5-11**] 10:00 PM
   Micafungin - [**2167-5-13**] 05:00 AM
   Ciprofloxacin - [**2167-5-13**] 11:25 AM
   Ambisome - [**2167-5-13**] 08:45 PM
   Foscarnet - [**2167-5-13**] 10:15 PM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 400 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: intubated, sedated
   Flowsheet Data as of  [**2167-5-14**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 78 (64 - 78) bpm
   BP: 155/65(91) {95/49(61) - 168/77(104)} mmHg
   RR: 13 (12 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.7 kg (admission): 74.5 kg
   Height: 61 Inch
             Total In:
                                                                  4,118 mL
                                                                  1,127 mL
   PO:
             TF:
   IVF:
                                                                  2,136 mL
                                                                    539 mL
   Blood products:
                                                                    199 mL
   Total out:
                                                                    480 mL
                                                                     50 mL
   Urine:
   NG:
                                                                     80 mL
                                                                     50 mL
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  3,638 mL
                                                             (-3L with HD)
                                                                    +600mL
                                                                  1,077 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 90%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 40 cmH2O
   Plateau: 32 cmH2O
   SpO2: 97%
   ABG: 7.35/49/76.[**Numeric Identifier 128**]/24/0
   Ve: 13.4 L/min
   PaO2 / FiO2: 84
   Physical Examination
   Gen: Intubated, sedated
   HEENT: rust colored secretions in ET tube, sclera icteric, packing
   removed from OP, no active bleeding at present
   Neck: HD line in place, c/d/i
   Cor: RRR, no MRG
   Lungs:  diminished BS, coarse
   Abd: soft, hypoactive BS, maroon OGT aspirate
   Ext: Anasarca, RUE tense/weeping edema. Right 4^th toe exposed bone,
   prominent DP pulses palpable
   Neuro: intubated, sedated
   Skin:  increased pigmentation face/chest, jaundiced, unchanged
   ecchymosis on inner thighs
   Labs / Radiology
   29 K/uL
   8.5 g/dL
   103 mg/dL
   2.9 mg/dL
   24 mEq/L
   4.2 mEq/L
   104 mg/dL
   99 mEq/L
   139 mEq/L
   23.3 %
   0.9 K/uL
        [image002.jpg]
                             [**2167-5-13**]  12:23 AM
                             [**2167-5-13**]  01:34 AM
                             [**2167-5-13**]  05:58 AM
                             [**2167-5-13**]  06:12 AM
                             [**2167-5-13**]  07:54 PM
                             [**2167-5-13**]  08:01 PM
                             [**2167-5-13**]  10:47 PM
                             [**2167-5-14**]  03:36 AM
                             [**2167-5-14**]  05:21 AM
                             [**2167-5-14**]  06:30 AM
   WBC
   0.9
   1.1
   0.9
   Hct
   26.1
   25.0
   23.3
   Plt
   51
   30
   56
   29
   Cr
   3.6
   2.4
   2.9
   TCO2
   26
   26
   26
   28
   29
   28
   Glucose
   102
   110
   103
   Other labs: PT / PTT / INR:14.0/21.2/1.2, CK / CKMB /
   Troponin-T:332/4/0.07, ALT / AST:176/147, Alk Phos / T Bili:466/10.3,
   Amylase / Lipase:33/16, Differential-Neuts:92.0 %, Band:0.0 %,
   Lymph:4.0 %, Mono:2.0 %, Eos:1.0 %, Fibrinogen:770 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:1262 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.9 mg/dL
   Gran count 591
   Micro:
   Wound culture: pending, gram stain with 2+ GPCs in pairs and clusters
   CMV viral load 707 (down from 752)
   CXR: wet read, decreased fluid overload from yesterday.
   Assessment and Plan
   54M h/o MM s/p cord blood transplant with complicated post transplant
   hospitalization with CMV viremia and GBS bacteremia, hypoxic
   respiratory failure, renal failure, osteomyelitis, transfusion
   dependent.
    # Hypoxic respiratory failure:  Likely multifactorial. No evidence PE
   from LENIs, Q scan and ECHO.  Probably combination of pulmonary
   edema/fluid overload from renal failure, infection, ARDS, possible DAH
   although a bit far out for GVHD at this point and pt is heavily
   immunosuppressed.  Became more hypoxic after HD yesterday in setting of
   CXR looking less overloaded.
   -Continue respiratory management with current vent settings, can go up
   on Fi02 to 100% if needed, but respiratory measures not indicated.
   -No plan for bronch, too dangerous given coagulopathy
   -Continue antimicrobials: cefepime (completed 14 day course, now
   restarted on [**5-13**]) and cipro for GNR double coverage, vancomycin,
   amphotericin added yesterday for empiric aspergillosis coverage.
   -Continue to dialyze as aggressively as pt tolerates.
   -minimize fluid intake.  Ensure all meds concentrated.
   # ARF :  Pt did not tolerate goal of -4L during HD yesterday, still
   fluid positive.
   -f/u renal recs
   -plan to start CVVH today with aggressive fluid removal
   -d/w renal DDAVP in setting of thrombocytopenia, relative hypotension
   and uremia.
   -renally dose meds
   -d/c anti-htn meds
   # Thrombocytopenia: Responding less to transfusion.   Got 2 units
   yesterday, responded initially, now platelets back to 29.
   -2 units platelets for <50, active bleeding (GI and respiratory tracks)
   -f/u post transfusion CBC.
    # CMV viremia. VL trending down
   -Continue foscarnet (no ganciclovir for leukopenia)
   -monitor electrolytes  (at risk for low K, Mg, phos with foscarnet)
   # PANCYTOPENIA / Anemia:
   Leukopenia: Likely med related, gancyclovir (has been switched to
   foscarnet), very concerning for sepsis, with left shift, concerning as
   pt has active osteomyelitis. (see below)
   -f/u cultures
   -continue antibiotics  (completed cefepime, now on caspo, vanc, cipro)
   -gran count 591, will give GCSF IV x 3 days per BMT recs
   -f/u BMT recs
   Anemia: Transfusion criteria: HCT <25, >5pt drop, active bleeding.
   -1 unit PRBCs today for HCT 23.3, f/u post-tx HCT.
   # Toe infection: on exam had purulent right 4rd toe wound.
   -podiatry c/s appreciated.  Plan to follow from afar, no OR due to
   instability.
   -daily wound dsg per their recs.
   -continue vanc.
   # HTN:  d/c anti-htn regimen for now due to hypotension limiting HD
   fluid removal.
   # GVHD @ liver: LFTs improving slowly.
   -continue to check daily LFTs
   -will decrease steroids today to methlyprednisolone 30 [**Hospital1 **] per BMT
   recs.
   - Ursodiol, mycophenylate mofetil
    #OP bleed: Pt has been having slow bleed in oropharynx likely due to
   trauma s/p intubation.
   -appreciate ENT involvement, f/u recs
   -packing removed today, call if rebleeds
   -hold on mouth care for next few days.
   # MM s/p cord transplant: STABLE.  Mycophenylate mofetil,
   methylprednisolone.
   - BMT following
   - d/w family the overal prognosis, plan for discussion: will not broach
   extubation but will discuss CPR not indicated.  No further escalation
   of care beyond increase Fi02 in terms of respiratory support (no rescue
   measures).
   # PCP [**Name Initial (PRE) **]: Atovaquone.
   # Fungal ppx: Micafungin
   # Duodenitis: STABLE  Duodenitis per EGD.
   -  Lansoprazole
   -  Holding Enterocort for gut inflammation, given inability to crush
   med for OG tube
   # Diabetes: STABLE.
   - Insulin in TPN
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-5-13**] 06:30 PM 75 mL/hour
   Glycemic Control:  ISS
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Dialysis Catheter - [**2167-5-7**] 03:00 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer: lansoprazole
   VAP:  holding mouth care for now, bleeding risk
   Comments:
   Communication:  Comments:
   Code status: Full code, to address today, CPR not indicated.
   Disposition:ICU
   ------ Protected Section ------
   Please see Dr. [**First Name (STitle) 1984**]
s note for details/data. I examined and discussed
   Mr [**Known lastname 2035**] with ICU team and I agree with her findings and plan.
   More hypoxic despite some radiographic improvement.
   Exam sig for worse anasarca with edema weeping from skin, bloodier NG
   secretions. Bloody ETT suctioning.
   Dialized yesterday. 1.7+ despite dialysis.
   LFTs- Tbili slightly increased.
   Leukopenia- WBC continues to remain in 1-2K range.
   Hypoxemic resp failure: ARDS, DAH, emphysema, GBS
   ID: Bacteremia (Beta Strep), empirically added ambisome and other abx
   remain unchanged.
   Dialysis-dependent Acute Renal Failure
   Heme/Onc: Myeloma s/p transplant, Graft vs. Host disease with worsening
   LFTs, Pancytopenia, transfusion dependent thromboycytopenia.
   Key here is Mr [**Known lastname 2035**] is worsening, with marginal oxygenation on
   maximal vent support despite broad antibiotics. Extremely poor
   prognosis despite maximal medical support. Dialysis today. No change to
   abx. Need to readdress codes status, as Mr [**Known lastname 2035**] would not have any
   statistical chance of surviving to hospital discharge if he were to
   require CPR.
   Critically ill.
   Time: 60 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 2010**] [**Last Name (NamePattern1) **], MD
   on:[**2167-5-14**] 16:24 ------

2167-05-15 07:14:00 Physician Resident Progress Note
Chief Complaint:
   54M with MM s/p cord blood transplant [**1-10**] with complicated hospital
   course with GVHD, CMV viremia, hypoxic respiratory failure, renal
   failure, osteomyelitis, transfusion dependent
   24 Hour Events:
   - long discussion with family and Dr. [**Last Name (STitle) 1750**].  decided to become DNR
   - do not want heroic measures or increasing vent settings, but also do
   not want to pull vent or to stop other therapy options
   - currently still on CVVH.  family may consider stopping it at some
   point but that is to be determined.
   - started on GCSF
   - steroids decreased to 30/30
   - BP started to drop around 1 AM- CVVH changed to no fluid off.  this
   AM still SBP in the 60s.  giving 250 cc bolus.  afebrile.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2167-5-13**] 05:00 AM
   Foscarnet - [**2167-5-13**] 10:15 PM
   Cefipime - [**2167-5-14**] 06:00 PM
   Ambisome - [**2167-5-14**] 08:10 PM
   Ciprofloxacin - [**2167-5-14**] 11:30 PM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-5-15**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.6
C (96
   HR: 64 (49 - 84) bpm
   BP: 59/31(41) {56/30(39) - 152/68(91)} mmHg
   RR: 25 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.7 kg (admission): 74.5 kg
   Height: 61 Inch
             Total In:
                                                                  4,605 mL
                                                                  1,708 mL
   PO:
             TF:
   IVF:
                                                                  2,047 mL
                                                                  1,232 mL
   Blood products:
                                                                    901 mL
   Total out:
                                                                  2,217 mL
                                                                    319 mL
   Urine:
   NG:
                                                                    790 mL
   Stool:
   Drains:
   Balance:
                                                                  2,388 mL
                                                                  1,389 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 7
   PEEP: 14 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 46 cmH2O
   SpO2: 100%
   ABG: 7.18/58/99.[**Numeric Identifier 253**]/21/-7
   Ve: 14.5 L/min
   PaO2 / FiO2: 100
   Physical Examination
   Gen: Intubated, sedated
   HEENT: rust colored secretions in ET tube, sclera icteric, packing
   removed from OP, no active bleeding at present
   Neck: HD line in place, c/d/i
   Cor: RRR, no MRG
   Lungs:  diminished BS, coarse
   Abd: soft, hypoactive BS, maroon OGT aspirate
   Ext: Anasarca, RUE tense/weeping edema. Right 4^th toe exposed bone,
   prominent DP pulses palpable
   Neuro: intubated, sedated
   Skin:  increased pigmentation face/chest, jaundiced, unchanged
   ecchymosis on inner thighs
   Labs / Radiology
   33 K/uL
   7.7 g/dL
   77 mg/dL
   2.3 mg/dL
   21 mEq/L
   4.0 mEq/L
   83 mg/dL
   104 mEq/L
   138 mEq/L
   22.1 %
   0.2 K/uL
        [image002.jpg]
                             [**2167-5-14**]  06:30 AM
                             [**2167-5-14**]  11:14 AM
                             [**2167-5-14**]  01:07 PM
                             [**2167-5-14**]  08:30 PM
                             [**2167-5-14**]  08:31 PM
                             [**2167-5-14**]  08:39 PM
                             [**2167-5-15**]  02:29 AM
                             [**2167-5-15**]  02:33 AM
                             [**2167-5-15**]  05:25 AM
                             [**2167-5-15**]  05:36 AM
   WBC
   0.2
   Hct
   22.1
   Plt
   23
   109
   33
   Cr
   2.6
   2.3
   TCO2
   28
   28
   25
   24
   23
   Glucose
   80
   66
   77
   Other labs: PT / PTT / INR:13.5/25.0/1.2, CK / CKMB /
   Troponin-T:332/4/0.07, ALT / AST:176/147, Alk Phos / T Bili:466/10.3,
   Amylase / Lipase:33/16, Differential-Neuts:92.0 %, Band:0.0 %,
   Lymph:4.0 %, Mono:2.0 %, Eos:1.0 %, Fibrinogen:770 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:1262 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   54M h/o MM s/p cord blood transplant with complicated post transplant
   hospitalization with CMV viremia and GBS bacteremia, hypoxic
   respiratory failure, renal failure, osteomyelitis, transfusion
   dependent.
    # Hypoxic respiratory failure:  Likely multifactorial. No evidence PE
   from LENIs, Q scan and ECHO.  Probably combination of pulmonary
   edema/fluid overload from renal failure, infection, ARDS, possible DAH
   although a bit far out for GVHD at this point and pt is heavily
   immunosuppressed.  Became more hypoxic after HD yesterday in setting of
   CXR looking less overloaded.
   -Continue respiratory management with current vent settings, can go up
   on Fi02 to 100% if needed, but respiratory measures not indicated.
   -No plan for bronch, too dangerous given coagulopathy
   -Continue antimicrobials: cefepime (completed 14 day course, now
   restarted on [**5-13**]) and cipro for GNR double coverage, vancomycin,
   amphotericin added yesterday for empiric aspergillosis coverage.
   -Continue to dialyze as aggressively as pt tolerates.
   -minimize fluid intake.  Ensure all meds concentrated.
   # ARF :  Pt did not tolerate goal of -4L during HD yesterday, still
   fluid positive.
   -f/u renal recs
   -plan to start CVVH today with aggressive fluid removal
   -d/w renal DDAVP in setting of thrombocytopenia, relative hypotension
   and uremia.
   -renally dose meds
   -d/c anti-htn meds
   # Thrombocytopenia: Responding less to transfusion.   Got 2 units
   yesterday, responded initially, now platelets back to 29.
   -2 units platelets for <50, active bleeding (GI and respiratory tracks)
   -f/u post transfusion CBC.
    # CMV viremia. VL trending down
   -Continue foscarnet (no ganciclovir for leukopenia)
   -monitor electrolytes  (at risk for low K, Mg, phos with foscarnet)
   # PANCYTOPENIA / Anemia:
   Leukopenia: Likely med related, gancyclovir (has been switched to
   foscarnet), very concerning for sepsis, with left shift, concerning as
   pt has active osteomyelitis. (see below)
   -f/u cultures
   -continue antibiotics  (completed cefepime, now on caspo, vanc, cipro)
   -gran count 591, will give GCSF IV x 3 days per BMT recs
   -f/u BMT recs
   Anemia: Transfusion criteria: HCT <25, >5pt drop, active bleeding.
   -1 unit PRBCs today for HCT 23.3, f/u post-tx HCT.
   # Toe infection: on exam had purulent right 4rd toe wound.
   -podiatry c/s appreciated.  Plan to follow from afar, no OR due to
   instability.
   -daily wound dsg per their recs.
   -continue vanc.
   # HTN:  d/c anti-htn regimen for now due to hypotension limiting HD
   fluid removal.
   # GVHD @ liver: LFTs improving slowly.
   -continue to check daily LFTs
   -will decrease steroids today to methlyprednisolone 30 [**Hospital1 **] per BMT
   recs.
   - Ursodiol, mycophenylate mofetil
    #OP bleed: Pt has been having slow bleed in oropharynx likely due to
   trauma s/p intubation.
   -appreciate ENT involvement, f/u recs
   -packing removed today, call if rebleeds
   -hold on mouth care for next few days.
   # MM s/p cord transplant: STABLE.  Mycophenylate mofetil,
   methylprednisolone.
   - BMT following
   - d/w family the overal prognosis, plan for discussion: will not broach
   extubation but will discuss CPR not indicated.  No further escalation
   of care beyond increase Fi02 in terms of respiratory support (no rescue
   measures).
   # PCP [**Name Initial (PRE) **]: Atovaquone.
   # Fungal ppx: Micafungin
   # Duodenitis: STABLE  Duodenitis per EGD.
   -  Lansoprazole
   -  Holding Enterocort for gut inflammation, given inability to crush
   med for OG tube
   # Diabetes: STABLE.
   - Insulin in TPN
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2167-5-14**] 05:00 PM 66 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2167-4-29**] 04:16 PM
   Arterial Line - [**2167-4-30**] 02:00 PM
   Dialysis Catheter - [**2167-5-7**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: